2146-10-20 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2146-10-19**] 08:29 PM
 FEVER - 101.4
F - [**2146-10-20**] 01:00 AM
   - ID agrees with current abx covg, rec checking random vanoc level
   tomorrow; serial BCX, rpt sputum.
   - ECHO showing worsened MR, Ao valve poorly visualized
   - MR [**Name13 (STitle) 186**] read showing possbie ongoing discitis/osteo
   - Pt decompensated from respiratory point of view: tachycardic over the
   course of the day with HR in 110-120, but btw 1 and 2am, became tachy
   to 150s sinus with increased WOB. Sats down and had to be switched to
   NRB. Neither wheezy nor particualry wet on exam. Nebs somewhat helpful.
   Also got lopressor IV 5mg x 1. CXR showing significant interval
   progression of RLL opacification.  Subequntly breathing comfortably on
   NRB with rr~18-20.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Aztreonam - [**2146-10-19**] 03:34 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-10-20**] 12:13 AM
   Metoprolol - [**2146-10-20**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-20**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 100 (89 - 168) bpm
   BP: 118/51(67) {99/42(59) - 143/74(91)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  3,650 mL
                  PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    320 mL
   Urine:
                                                                    915 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,435 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   7.7 g/dL
   129 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   30 mg/dL
   109 mEq/L
   140 mEq/L
   24.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2146-10-19**]  01:00 AM
                             [**2146-10-19**]  02:32 AM
                             [**2146-10-19**]  03:34 AM
                             [**2146-10-20**]  03:30 AM
   WBC
   12.9
   8.7
   Hct
   25.8
   24.1
   Plt
   264
   264
   Cr
   2.3
   2.5
   TropT
   0.07
   TCO2
   23
   Glucose
   108
   95
   129
   Other labs: PT / PTT / INR:28.8/49.6/2.8, CK / CKMB /
   Troponin-T:213/3/0.07, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Lactic Acid:1.6 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gouth, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abcess and bactremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy.
   .
   # Fevers:  Patient was changed from Ampicillin/CTX to Daptomycin [**1-17**]
   rash.  patient then began to have worsening fevers and lethary at
   rehab.  Main concern is for recurrence of epidural abscess.
   Neurosurgery has been consulted and recommend MR [**Name13 (STitle) 1914**].  Patient also
   has Aortic Vegetation seen on TEE during last admission, which may have
   progressed to an abscess.  will order repeat ECHO for evaluation.
   Other possibilities include meningitis given AMS as well as abcess
   formation in brain from previously known septic emboli.  CXR done on
   arrival to ICU showed increasing RLL infiltrate concerning for PNA vs
   Aspiration Pneumonitis.  Will need to follow imaging to confirm whether
   PNA vs Pneumonitis.  UA with no pyuria but +bacteria, many yeast,
   catheter changed in ED.
   -- cont Vanco/Aztreonam
   -- MR [**Name13 (STitle) **]
   -- MR [**Name13 (STitle) **]
   -- ECHO in AM
   -- send c.diff
   -- f/u Neurosurgery recs
   -- repeat CXR tomorrow in AM
   -- send blood cultures/UA/UCx
   .
   # AMS: Likely [**1-17**] fevers and likely infection.  CT Head done in ED
   shows no signs of acute hemorrhage or infarction.  Patient was given
   Morphine 4mg IV x 3 in ED which may have contributed to AMS
   -- cont to monitor
   -- hold Morphine
   .
   # Right Atrial Appendage Thrombus:  INR 2, OSH records do not report
   Coumadin on med list in morning, will confirm in AM.
   -- confirm anticoagulation meds in AM
   -- follow PT/INR
   .
   # Epidural Abscess s/p L5-S1 laminectomy:  Nsurg consulted as above.
   will need to perform MR [**Name13 (STitle) 1914**] for evalution to determine if there is
   recurrence of abscesses
   -- MR [**Name13 (STitle) 1914**] in AM
   -- f/u Nsurg recs
   .
   # Enterococcal Bacteremia:  Developed rash to Amp/CTX changed to dapto,
   now spiking fevers.
   -- f/u blood cultures
   -- cont Vanco/Aztreonam as above
   .
   # Asthma:
   -- Ipratropium nebs PRN
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / NPO for now
   # PPX: PPI, anticoagulated, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-20 09:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Acutely hypoxemia and tachycardia overnight with worsening CXR.
   Placed on NRB. Somewhat improved with lopressor and nebs.
   - ID consult recommended continuing Vanc and aztreonam
   - TTE: Worsening MR, poorly visualized aortic valve
   - L-spine MRI: Prelim read with possible ongoing osteo of L5-S1
   - Tm 101.4
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Aztreonam - [**2146-10-20**] 07:58 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-10-20**] 12:13 AM
   Metoprolol - [**2146-10-20**] 12:30 AM
   Other medications:
   colace, Lidocaine TD, PPI, Vanc, gabapentin, Aztreonam, tylenol,
   albuterol/atrovent neb,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-20**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (99
   HR: 100 (89 - 168) bpm
   BP: 111/46(61) {99/42(59) - 143/74(91)} mmHg
   RR: 17 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,650 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    650 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    480 mL
   Urine:
                                                                    915 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,435 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   264 K/uL
   129 mg/dL
   2.5 mg/dL
   20 mEq/L
   4.0 mEq/L
   30 mg/dL
   109 mEq/L
   140 mEq/L
   24.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2146-10-19**]  01:00 AM
                             [**2146-10-19**]  02:32 AM
                             [**2146-10-19**]  03:34 AM
                             [**2146-10-20**]  03:30 AM
   WBC
   12.9
   8.7
   Hct
   25.8
   24.1
   Plt
   264
   264
   Cr
   2.3
   2.5
   TropT
   0.07
   TCO2
   23
   Glucose
   108
   95
   129
   Other labs: PT / PTT / INR:28.8/49.6/2.8, CK / CKMB /
   Troponin-T:213/3/0.07, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Lactic Acid:1.6 mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR - Worsening RLL infiltrate
   Microbiology: Blood 11/4: GPCC in anerobic bottle. Other cultures
   negative. Urine cx pending. Sputum: >20pmn, <10 epis, oropharyngeal
   flora. C. diff negative.
   Assessment and Plan
   76 y/o with history of Asthma, Gouth, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abcess and bactremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy.
   # Fevers:  Multiple sources -- Possible conversion of septic emboli in
   brain to abscess.  Also with aortic endocarditis.  Infiltrate on CXR
   and oxygen requirement concerning for PNA or aspiration.  Menigitis is
   less concerning given improvement of mental status now that morphine
   has worn off.  Foley changed in ED.
   - TTE to evaluate for abscess or progression of endocarditis
   - Blood / urine cultures, repeat U/A, c. diff
   - Repeat MR head and spine (will be coordinated with renal given
   decreased GFR and need for gadolinium)
   - Copntinue vanc and aztreonam per ID
   - ID consult
   - Repeat CXR in am
   # AMS: Likely [**1-17**] fevers and morphine.  CT Head done in ED shows no
   signs of acute hemorrhage or infarction.  Improved this am.
   -- Cont to monitor
   -- Hold Morphine
   # CRI: At baseline, but low GFR concerning for gadolinium
   administration.
   - Discuss contrast with renal
   # Pain: Altered on morphine.  Has been poorly controlled at baseline.
   - Try non-narcotic regimen.
   - Consider pain consult if not controlled with abovel.
   # Right Atrial Appendage Thrombus:  Started on coumadin during last
   hospitalization.
   - Hold coumadin given possible procedures today
   - Start heparin if INR < 2
   #Acute respiratory distress: initially tachypneic and on  NRB- improved
   after a nebulizer with oxygen weaned to 4 liters n.c. This likely
   represents PNA vs aspiration with underlying asthma
   - Wean oxygen as tolerated
   - nebulizers prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Prophylaxis:
   DVT: Boots, coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-10-21 06:16:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 INVASIVE VENTILATION - START [**2146-10-20**] 06:00 PM  --difficulty
   oxygenating, dyssynchronous with the vent
 ARTERIAL LINE - START [**2146-10-20**] 09:11 PM
 BLOOD CULTURED - At [**2146-10-20**] 10:09 PM
 URINE CULTURE - At [**2146-10-20**] 10:09 PM
 FEVER - 103.6
F - [**2146-10-20**] 11:00 PM  -started Clinda for aspiration
   pna
   CXR: pulm edema -got 40 IV lasix x2
   -HCT 23.4 this AM
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-20**] 03:37 PM
   Aztreonam - [**2146-10-21**] 12:18 AM
   Clindamycin - [**2146-10-21**] 12:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-20**] 04:23 PM
   Labetalol - [**2146-10-20**] 06:00 PM
   Midazolam (Versed) - [**2146-10-20**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-21**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.5
C (99.5
   HR: 110 (93 - 147) bpm
   BP: 153/106(123) {84/35(51) - 198/106(123)} mmHg
   RR: 30 (15 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    501 mL
                                                                    279 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                    481 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    250 mL
   Urine:
                                                                  2,380 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,879 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 900 (900 - 900) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 19 cmH2O
   Plateau: 24 cmH2O
   SpO2: 92%
   ABG: 7.43/34/71/22/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 118
   Physical Examination
   GEN: Intbuated, sedated, using some abdominal muscles to breathe
   CVS: +S1/S2, no m/r/g, rrr
   LUNGS: +crackles on R side, on anterior exam
   ABD: +BS, NT/ND
   EXT: +2 pitting edema of b/l lower extremities
   SKIN: no rashes
   Labs / Radiology
   318 K/uL
   7.6 g/dL
   89 mg/dL
   2.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   33 mg/dL
   108 mEq/L
   139 mEq/L
   23.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2146-10-19**]  03:34 AM
                             [**2146-10-20**]  03:30 AM
                             [**2146-10-20**]  12:11 PM
                             [**2146-10-20**]  12:33 PM
                             [**2146-10-20**]  05:41 PM
                             [**2146-10-20**]  07:03 PM
                             [**2146-10-20**]  09:30 PM
                             [**2146-10-20**]  09:43 PM
                             [**2146-10-21**]  03:33 AM
                             [**2146-10-21**]  04:48 AM
   WBC
   12.9
   8.7
   8.3
   6.1
   Hct
   25.8
   24.1
   24.3
   23.4
   Plt
   [**Telephone/Fax (3) 9805**]18
   Cr
   2.3
   2.5
   2.4
   2.6
   TCO2
   23
   23
   20
   22
   23
   23
   Glucose
   95
   129
   120
   89
   Other labs: PT / PTT / INR:41.2/48.4/4.3, CK / CKMB /
   Troponin-T:213/3/0.07, ALT / AST:19/26, Alk Phos / T Bili:119/0.7,
   Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6 %, Eos:1.6 %, Lactic
   Acid:1.6 mmol/L, LDH:272 IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bactremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy.
   # Persistent hypoxemic respiratory failure: Patient seemed to
   aspiration yesterday, requiring intubation for hypoxemia and increased
   work of breathing. However, he has been difficult to oxygenate
   overnight.  Likely all due to aspiration pneumonia
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for aspiration pneumonia
   -diurese with lasix as BP tolerates
   -daily chest x-rays
   .
   # Fevers:  Several sources possible.  MRI of Lspine done shows L5-S1
   discitis/osteo which could be the reason for his continued fevers.
   Blood cultures from yesterday also growing Gram +cocci in clusters
   which may be a contaminant as it seems to be from one bottle.  We will
   have to await speciation.  CXR also showing RLL consolidation which may
   be [**1-17**] to aspiration which occurred in ED here.   If blood cultures are
   + for Enterococcus then will need to perform TEE to evaluate for
   worsening aortic vegetation. C diff negative. Urine legionella Ag
   negative.
   -- cont Vanco/Aztreonam/Clinda
   --f/u ID recs
   -- f/u Neurosurgery recs
   -- f/u blood cultures, Ucx
   -- change foley
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  INR 4.3 today.  Hold coumadin
   today.
   -- follow PT/INR
   .
   # Epidural Abscess s/p L5-S1 laminectomy:  Nsurg consulted as above.
   Per NSurg no invtervention needed at this time.
   -- f/u Nsurg recs
   .
   # Enterococcal Bacteremia:  Developed rash to Amp/CTX changed to dapto,
   now on Vanco
   -- f/u blood cultures
   -- cont Vanco/Aztreonam/Clinda as above
   -- f/u ID recs
   -- obtain TEE per ID recs
   .
   # Asthma:
   -- Ipratropium nebs PRN
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, anticoagulated, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-21 10:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Worsening respiratory failure yesterday pm requiring intubation.
   Witnessed aspiration while taking pills.  Worsening R-sided infiltrate
   on CXR
   - Placed on PCV for comfort, but still with forced exhalation
   - A line placed
   - Tm 103.6 -> clinda started for anaerobic coverage
   - Afib with RVR requiring IV lopressor and amio gtt
   - CL placed
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-20**] 03:37 PM
   Clindamycin - [**2146-10-21**] 08:25 AM
   Aztreonam - [**2146-10-21**] 08:25 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-20**] 04:23 PM
   Labetalol - [**2146-10-20**] 06:00 PM
   Midazolam (Versed) - [**2146-10-20**] 06:20 PM
   Pantoprazole (Protonix) - [**2146-10-21**] 08:00 AM
   Other medications:
   Colace, Lido TD, PPI, Neurontin, Tylenol, Coumadin, Atrovent MDI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-21**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 36.9
C (98.5
   HR: 116 (93 - 147) bpm
   BP: 146/62(88) {84/35(51) - 198/106(123)} mmHg
   RR: 24 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    501 mL
                                                                    521 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                    481 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    390 mL
   Urine:
                                                                  2,380 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,879 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 900 (900 - 900) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.43/34/71/22/0
   Ve: 14.8 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: Thin, Uncomfortable on vent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Rhonchorous: ), R>L
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   318 K/uL
   89 mg/dL
   2.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   33 mg/dL
   108 mEq/L
   139 mEq/L
   23.4 %
   6.1 K/uL
        [image002.jpg]
                             [**2146-10-19**]  03:34 AM
                             [**2146-10-20**]  03:30 AM
                             [**2146-10-20**]  12:11 PM
                             [**2146-10-20**]  12:33 PM
                             [**2146-10-20**]  05:41 PM
                             [**2146-10-20**]  07:03 PM
                             [**2146-10-20**]  09:30 PM
                             [**2146-10-20**]  09:43 PM
                             [**2146-10-21**]  03:33 AM
                             [**2146-10-21**]  04:48 AM
   WBC
   12.9
   8.7
   8.3
   6.1
   Hct
   25.8
   24.1
   24.3
   23.4
   Plt
   [**Telephone/Fax (3) 9805**]18
   Cr
   2.3
   2.5
   2.4
   2.6
   TCO2
   23
   23
   20
   22
   23
   23
   Glucose
   95
   129
   120
   89
   Other labs: PT / PTT / INR:41.2/48.4/4.3, CK / CKMB /
   Troponin-T:213/3/0.07, ALT / AST:19/26, Alk Phos / T Bili:119/0.7,
   Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6 %, Eos:1.6 %, Lactic
   Acid:1.6 mmol/L, LDH:272 IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR - Worsening R-sided infiltrate
   Microbiology: No new culture data.
   Assessment and Plan
   76 y/o male with h/o asthma, gout and recent complicated hospital
   course including epidural abscess requring surgery, enterococcus
   bactermia, aortic endocarditis, septic emboli to brain, NSTEMI, RA
   thrombus, and temporary HD for gadolinium exposure -- d/c'ed to rehab
   on ampicillin and CTX x 6 weeks.  Developed drug rash at rehab and
   switched to daptomycin and then started developing fevers, lethargy and
   AMS. Trasferred here for further management.  Noted to have worsening
   RLL infiltrate and witnessed aspiration event requiring mechanical
   ventilation.
   #Acute respiratory distress: Likely [**1-17**] PNA and aspiration with h/o
   asthma.  Intubated [**10-20**] for worsening respiratory distress in setting
   of witnessed aspiration.   Also with some volume overload.
   - On antibiotics to cover HAP and aspiration
   - Uncomfortable on vent
 will try increasing sedation and possibly
   swtiching to propofol or paralysis if not settling out
   - Borderline oxygenation, but does not meed ARDS criteia (L lung
   relatively spared).
   - Diuresis
   - Wean PEEP as tolerated given lack of ARDS physiology and concerns
   that high PEEP will overdistend good lung.  Can consider double lumen
   tube if necessary.
   # Fevers:  Likely due to R-sided pneumonia.  Also osteomyelitis and
   discitis may be contributing.  Positive blood culture may be a
   contaminant.
   - Copntinue vanc and aztreonam per ID, added clinda for anaerobic
   coverage
   - F/U urine legionella
   - F/U cultures and GPCC speciation (if enterococcus, would treat for
   another 6 weeks for endocarditis)
   - Continue vanc for enterococcus endocarditis
   - F/U neurosurgery recs
   - F/U ID recs
   - TEE requested by consult service
   # Right Atrial Appendage Thrombus:  Started on coumadin during last
   hospitalization.
   - Holding coumadin given supratherapeutic INR
   # Afib with RVR:
   - Amio gtt
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   relevant portions of services provided. I agree with Dr. [**Last Name (STitle) 2956**]
s note,
   and would add: 76 yo male with asthma, with recent complicated hospital
   course from Enterococcal aoV endocarditis, left atrial clot, epidural
   abscess, readmitted with fevers and respiratory distress from
   aspiration vs. PNA. Intubated yesterday for acutely worsening distress
   developing immediately after witnessed aspiration. This afternoon, he
   developed rapid afib with hypotension, now on neo and amio infusion.
   Microbiology still shows just the one +bd culture for GPC (since
   amended to NEGATIVE blood culture), no speciation back yet and
   surveillance cx
s NGTD.
   CXR shows progressing of infiltrates- very impressive unilateral
   process.
   Imp: 76 yo male with fevers, acute respiratory failure from aspiration,
   afib, shock.  With blood cultures so far negative and Lspine MRI
   negative for recurrent abscess, lung appears to be the only
   identifiable source so far.
   On abx for HAP, PC ventilation, amiodarone, neo infusion. Given
   strongly unilateral process, would position pt left side down to
   increase blood flow to more functional lung. Some concern in this
   context that PEEP could be over-distending his normal lung- did not
   tolerate attempt to drop earlier this afternoon, but several vent
   changes made and pt then in rapid afib. Will continue amio for rate
   control, neo infusion to maintain MAP>60.
   Pt is critically ill. Total time spent: 80 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2146-10-21**] 17:22 ------

2146-10-22 08:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2146-10-21**] 01:35 PM
 MULTI LUMEN - START [**2146-10-21**] 03:07 PM
   Went into atrial fib with RVR, became hypotensive, CVL placed, started
   on Neo and Amiodarone
   Converted to NSR in the early evening, Blood pressures improved, Neo
   weaned, currently at 0.5 mcg/kg
   TEE planned for monday
   Final MRI read shows continued discitis which has not progressed since
   last MRI, there is a small fluid collection not in epidural space,
   ?abscess.
   +hypoxemia during hypotension yesterday, required changed from AC to
   [**Year (4 digits) 9840**]
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-21**] 07:35 PM
   Aztreonam - [**2146-10-22**] 12:00 AM
   Clindamycin - [**2146-10-22**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Metoprolol - [**2146-10-21**] 01:35 PM
   Furosemide (Lasix) - [**2146-10-22**] 03:00 AM
   Fentanyl - [**2146-10-22**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-22**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 80 (65 - 154) bpm
   BP: 106/44(63) {83/37(52) - 180/62(92)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 13 (13 - 17)mmHg
   Total In:
                                                                  4,893 mL
                                                                    915 mL
   PO:
   TF:
   IVF:
                                                                  4,119 mL
                                                                    480 mL
   Blood products:
                                                                    594 mL
                                                                    375 mL
   Total out:
                                                                    625 mL
                                                                    115 mL
   Urine:
                                                                    625 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,268 mL
                                                                    800 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: [**Year (4 digits) 9840**]
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.39/34/95.[**Numeric Identifier 252**]/19/-3
   Ve: 11.2 L/min
   PaO2 / FiO2: 119
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   301 K/uL
   8.6 g/dL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.3 mEq/L
   43 mg/dL
   106 mEq/L
   138 mEq/L
   25.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2146-10-21**]  03:33 AM
                             [**2146-10-21**]  04:48 AM
                             [**2146-10-21**]  11:38 AM
                             [**2146-10-21**]  01:57 PM
                             [**2146-10-21**]  02:01 PM
                             [**2146-10-21**]  04:53 PM
                             [**2146-10-21**]  08:31 PM
                             [**2146-10-21**]  09:51 PM
                             [**2146-10-22**]  06:16 AM
                             [**2146-10-22**]  07:59 AM
   WBC
   6.1
   8.3
   Hct
   23.4
   21.4
   25.7
   Plt
   318
   301
   Cr
   2.6
   2.5
   3.0
   TropT
   0.46
   0.54
   TCO2
   23
   24
   23
   20
   21
   Glucose
   89
   100
   99
   Other labs: PT / PTT / INR:53.1/58.1/5.9, CK / CKMB /
   Troponin-T:421/9/0.54, ALT / AST:[**Telephone/Fax (1) 9837**], Alk Phos / T Bili:157/1.4,
   Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6 %, Eos:1.6 %, Lactic
   Acid:1.6 mmol/L, LDH:1269 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bactremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy.
   # Persistent hypoxemic respiratory failure: Patient with worsening
   Right Lung Pneumonia which seems to involve the entire lung field on
   CXR.  Patient on [**Last Name (LF) 9840**], [**First Name3 (LF) 124**] cont to wean as tolerated.  On
   Vanc/Aztreonam/Clina, with minimal improvement.  Will speak with ID
   regarding Abx coverage
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider
   -daily chest x-rays
   .
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  Patient was started on amiodarone and now converted
   to NSR.
   - monitor on tele
   - cont Amio, transition to PO
   - wean Neo as tolerated
   .
   # Hypotension:  Likely [**1-17**] Pneumonia as well as Afib yesterday.  BP
   improved with return to NSR.  Still requiring low dose Neo today.
   - 1L IVF bolus with goal of weaning Neo off.
   - abx as above
   # Troponin leak:  Patient with troponin leak after episode of afib
   yesterday.  CK elevated slightly but MB flat.  Likely [**1-17**] to [**Last Name (un) 2971**]
   ischemia in the setting of hypotenstion, renal failure and afib with
   RVR.  Troponin continues to rise this morning
   - recheck Cardiac Enzymes this afternoon
   - if continues to rise, consider cards consult
   # Fevers:  Presented for continued fevers, which have now resolved.
   Improvement suggests that antibiotic coverage is working but Right lung
   worsening is concerning.  Will cont the course for now and speak with
   ID as above
   -- cont Vanco/Aztreonam/Clinda
   -- f/u ID recs
   -- f/u Neurosurgery recs
   -- f/u blood cultures, Ucx
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  INR 5.9  today.  Hold coumadin
   today.
   -- follow PT/INR
   .
   # Epidural Abscess s/p L5-S1 laminectomy:  Nsurg consulted as above.
   Per NSurg no invtervention needed at this time.
   -- f/u Nsurg recs
   .
   # Enterococcal Bacteremia:  Developed rash to Amp/CTX changed to dapto,
   now on Vanco
   -- f/u blood cultures
   -- cont Vanco/Aztreonam/Clinda as above
   -- f/u ID recs
   -- obtain TEE per ID recs
   .
   # Asthma:
   -- Ipratropium nebs PRN
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, anticoagulated, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-22 16:54:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure, PNA
   HPI:
   76M (h/o asthma, gout and recent complicated hospitalcourse including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI and
   temporary HD for gadolinium exposure) was d/c'ed to rehab on ampicillin
   and CTX x 6 weeks. Pt developed rash attributed to medication and
   switched to daptomycin. Pt developed fevers, lethargy and AMS. Pt
   intubated [**10-20**] after witnessed aspiration event.  Pt now has dense
   R-sided infiltrate.
   24 Hour Events:
   Developed afib with RVR [**10-21**] requiring lopressor then vasopressor (neo)
   and amio gtt.  Trop 0.43. Pt converted to NSR yesterday evening with
   improvement in MAPs (although still requiring lower levels of neo).
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-21**] 07:35 PM
   Clindamycin - [**2146-10-22**] 08:30 AM
   Aztreonam - [**2146-10-22**] 03:30 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-22**] 03:00 AM
   Fentanyl - [**2146-10-22**] 02:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-10-22**] 04:53 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.6
   HR: 80 (65 - 130) bpm
   BP: 112/45(66) {91/37(53) - 180/58(92)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 15 (13 - 17)mmHg
   Mixed Venous O2% Sat: 92 - 92
                                Total In:
                                                                  4,893 mL
                                                                  3,851 mL
   PO:
                                TF:
   IVF:
                                                                  4,119 mL
                                                                  3,006 mL
   Blood products:
                                                                    594 mL
                                                                    725 mL
   Total out:
                                                                    625 mL
                                                                    505 mL
   Urine:
                                                                    625 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,268 mL
                                                                  3,346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 9
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.36/35/81.[**Numeric Identifier 252**]/19/-4
   Ve: 12 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: R--diminished, rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   301 K/uL
   99 mg/dL
   3.0 mg/dL
   19 mEq/L
   4.3 mEq/L
   43 mg/dL
   106 mEq/L
   138 mEq/L
   25.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2146-10-21**]  11:38 AM
                             [**2146-10-21**]  01:57 PM
                             [**2146-10-21**]  02:01 PM
                             [**2146-10-21**]  04:53 PM
                             [**2146-10-21**]  08:31 PM
                             [**2146-10-21**]  09:51 PM
                             [**2146-10-22**]  06:16 AM
                             [**2146-10-22**]  07:59 AM
                             [**2146-10-22**]  09:56 AM
                             [**2146-10-22**]  12:45 PM
   WBC
   8.3
   Hct
   21.4
   25.7
   Plt
   301
   Cr
   2.5
   3.0
   TropT
   0.46
   0.54
   0.71
   TCO2
   24
   23
   20
   21
   22
   21
   Glucose
   100
   99
   Other labs: PT / PTT / INR:53.1/58.1/5.9, CK / CKMB /
   Troponin-T:421/9/0.71, ALT / AST:[**Telephone/Fax (1) 9837**], Alk Phos / T Bili:157/1.4,
   Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6 %, Eos:1.6 %, Lactic
   Acid:1.5 mmol/L, LDH:1269 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   #Hypoxemic respiratory failure on vent (APRV)
   --Cont APRV, wean FiO2 to PaO2 > 65
   #HypoTN on vasopressor (neo): Etiology includes early sepsis (e.g. [**1-17**]
   PNA) versus heart failure (BNP 10,000)
   [] IVF challenge (1L bolus) + 1u pRBC. Further fluid challenge or
   diuresis pending the response to this challenge.
   #PNA (with persistent hypotension): Pt appears to be clinically worse
   despite >2d on vanc / aztreonam (hypoTN, worsening CXR).
   [] send sputum cx
   [] send vanc level
   [] Discuss broadening abx coverage with ID (including consideration of
   fluoroquinolone v. aminoglycoside)
   #Afib RVR: amio gtt started yesterday.
   [] 6g Afib load. After amio gtt completed (24hr) start amio 400mg PO
   tid
   #Acute transaminitis. Overnight increase from ALT 19 -> 326; AST 26 ->
   1177. Most likely due to shock liver in setting of hypoTN during Afib
   RVR. Hepatic vein thrombosis unlikely in setting of anti-coagulation.
   --Defer RUQ U/S for now since unlikely to change management.
   [] trend LFTs
   [] d/c statin
   #Elevated cardiac biomarkers: TnI elevated at 0.5, CKMB flat at 9. Most
   likely [**1-17**] demand in setting of RVR / hypoTN.
   [] cont ASA
   -- defer BB in setting of hypoTN/vasopressor
   [] trend biomarkers to peak
   #Elevated INR 5.9 (coumadin started at 1mg 2 days ago).
   [] hold coumadin
   -- defer vit K (no evidence of active bleeding)
   #s/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   [] Discuss fluid collection with NSY c/s who is following.
   #Fevers: afebrile O/N
   [] Cardiology plans TEE on Mon
   [] f/u ID recs, NSY recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 284**]
   note,including assessment and plan. I would add: 76 yo male with gout,
   asthma, recent complicated hospitalization for enterococcal aortic
   valve endocarditis, epidural abscess, atrial thrombus on coumadin,
   admitted with recurrent fevers. In the ICU he developed worsening
   respiratory distress with witnessed aspiration resulting in
   intubation/mechanical ventilation. Yesterday, he developed afib and
   shock,- on amiodarone/neo infusion. Converted to NSR overnight.
   Plans:
   1.       Acute respiratory failure- has Aspiration/PNA with MRSA
   recovered from sputums ((+) cultures last hospitalization, then felt to
   be a contaminant)- on Vanco. Ventilator requirements have been
   difficult given process almost exlucisvely involves the right side.
   Previously dyssynchronous on AC, transiently on PC ventilation.
   Attempts to decrease PEEP (due to concern of overdistending normal
   lung) resulted in hypoxia, desaturations do respond to recruitment
   maneuvers. Now on APRV and tolerating reasonably. Keep left side down.
   2.       elevated transaminases: shock liver most likely in his
   scenario, will follow  LFT
s and consider abd US if it does not improve
   3.       Fevers: Blood culture previously reported as GPC returned
   NEGative as final result, LS MRI negative for progression and only
   positive culture S.aureus from sputum
mostly pointing toward lung as
   primary source. Abx are Vanc/aztreonam to cover PNA/enterococcal
   endocaridtis- will touch base with ID re abx
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Doctor Last Name 284**], Fellow
   on:[**2146-10-22**] 19:00 ------
   Please note that the above addendum was actually written by me but
   signed under the wrong account.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2146-10-22**] 20:51 ------

2146-10-23 08:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-10-22**] 11:28 AM
 ULTRASOUND - At [**2146-10-22**] 03:30 PM
   abd
 FEVER - 101.3
F - [**2146-10-22**] 08:00 PM
   - muddy brown casts! ATN, likely from hypotension. FENA pending
   - reloaded IV as went into AFIB/RVR last night with good effect,
   ordered for 400mg tid for one week.
   - per ID, checked hapto, lactate, retiuc ct, TEE ordered, Abd US
   ordered
   - UOP increased to 1L NS x2 and 1uPRBC, neo weaned off
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-21**] 07:35 PM
   Aztreonam - [**2146-10-23**] 12:00 AM
   Clindamycin - [**2146-10-23**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2146-10-22**] 02:55 PM
   Amiodarone - [**2146-10-23**] 01:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-23**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 39.3
C (102.8
   HR: 86 (73 - 157) bpm
   BP: 136/48(73) {91/38(55) - 156/55(84)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 16 (12 - 17)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  4,046 mL
                                                                    454 mL
   PO:
   TF:
   IVF:
                                                                  3,141 mL
                                                                    354 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                    800 mL
                                                                    215 mL
   Urine:
                                                                    800 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,246 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: [**Year (4 digits) 9840**]
   Vt (Spontaneous): 498 (498 - 580) mL
   RR (Spontaneous): 4
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.36/36/87.[**Numeric Identifier 7**]/24/-4
   Ve: 9.7 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R>L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   297 K/uL
   8.4 g/dL
   95 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   45 mg/dL
   109 mEq/L
   138 mEq/L
   26.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2146-10-21**]  09:51 PM
                             [**2146-10-22**]  06:16 AM
                             [**2146-10-22**]  07:59 AM
                             [**2146-10-22**]  09:56 AM
                             [**2146-10-22**]  12:45 PM
                             [**2146-10-22**]  04:43 PM
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
   WBC
   8.3
   8.4
   9.4
   Hct
   25.7
   25.4
   26.2
   Plt
   [**Telephone/Fax (3) 9856**]
   Cr
   3.0
   3.1
   3.5
   TropT
   0.54
   0.71
   0.70
   TCO2
   21
   22
   21
   20
   20
   21
   Glucose
   99
   107
   95
   Other labs: PT / PTT / INR:76.1/62.5/9.0, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:215/481, Alk Phos / T Bili:183/1.2,
   Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6 %, Eos:1.6 %, Lactic
   Acid:1.2 mmol/L, LDH:678 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.0
   mg/dL
   Microbiology: YEAST IN SPUTUM, ALL OTHER BCX NEGATIVE
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bactremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy.
   # Persistent hypoxemic respiratory failure: Patient with worsening
   Right Lung Pneumonia which seems to involve the entire lung field on
   CXR.  Patient on [**Last Name (LF) 9840**], [**First Name3 (LF) 124**] cont to wean as tolerated.  On
   Vanc/Aztreonam/Clina, with minimal improvement.  Will speak with ID
   regarding Abx coverage
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider
   -daily chest x-rays
   .
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  Patient was started on amiodarone and now converted
   to NSR.
   - monitor on tele
   - cont Amio, transition to PO
   - wean Neo as tolerated
   .
   # Hypotension:  Likely [**1-17**] Pneumonia as well as Afib yesterday.  BP
   improved with return to NSR.  Still requiring low dose Neo today.
   - 1L IVF bolus with goal of weaning Neo off.
   - abx as above
   # Troponin leak:  Patient with troponin leak after episode of afib
   yesterday.  CK elevated slightly but MB flat.  Likely [**1-17**] to [**Last Name (un) 2971**]
   ischemia in the setting of hypotenstion, renal failure and afib with
   RVR.  Troponin continues to rise this morning
   - recheck Cardiac Enzymes this afternoon
   - if continues to rise, consider cards consult
   # Fevers:  Presented for continued fevers, which have now resolved.
   Improvement suggests that antibiotic coverage is working but Right lung
   worsening is concerning.  Will cont the course for now and speak with
   ID as above
   -- cont Vanco/Aztreonam/Clinda
   -- f/u ID recs
   -- f/u Neurosurgery recs
   -- f/u blood cultures, Ucx
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  INR 5.9  today.  Hold coumadin
   today.
   -- follow PT/INR
   .
   # Epidural Abscess s/p L5-S1 laminectomy:  Nsurg consulted as above.
   Per NSurg no invtervention needed at this time.
   -- f/u Nsurg recs
   .
   # Enterococcal Bacteremia:  Developed rash to Amp/CTX changed to dapto,
   now on Vanco
   -- f/u blood cultures
   -- cont Vanco/Aztreonam/Clinda as above
   -- f/u ID recs
   -- obtain TEE per ID recs
   .
   # Asthma:
   -- Ipratropium nebs PRN
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, anticoagulated, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-23 08:19:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-10-22**] 11:28 AM
 ULTRASOUND - At [**2146-10-22**] 03:30 PM
   abd
 FEVER - 101.3
F - [**2146-10-22**] 08:00 PM
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-21**] 07:35 PM
   Aztreonam - [**2146-10-23**] 12:00 AM
   Clindamycin - [**2146-10-23**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2146-10-22**] 02:55 PM
   Amiodarone - [**2146-10-23**] 01:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-23**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 39.3
C (102.8
   HR: 86 (73 - 157) bpm
   BP: 136/48(73) {91/38(55) - 156/55(84)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 16 (12 - 17)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  4,046 mL
                                                                    457 mL
   PO:
   TF:
   IVF:
                                                                  3,141 mL
                                                                    357 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                    800 mL
                                                                    215 mL
   Urine:
                                                                    800 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,246 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 498 (498 - 580) mL
   RR (Spontaneous): 4
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.36/36/87.[**Numeric Identifier 7**]/24/-4
   Ve: 9.7 L/min
   PaO2 / FiO2: 147
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   297 K/uL
   95 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   45 mg/dL
   109 mEq/L
   138 mEq/L
   26.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2146-10-21**]  09:51 PM
                             [**2146-10-22**]  06:16 AM
                             [**2146-10-22**]  07:59 AM
                             [**2146-10-22**]  09:56 AM
                             [**2146-10-22**]  12:45 PM
                             [**2146-10-22**]  04:43 PM
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
   WBC
   8.3
   8.4
   9.4
   Hct
   25.7
   25.4
   26.2
   Plt
   [**Telephone/Fax (3) 9856**]
   Cr
   3.0
   3.1
   3.5
   TropT
   0.54
   0.71
   0.70
   TCO2
   21
   22
   21
   20
   20
   21
   Glucose
   99
   107
   95
   Other labs: PT / PTT / INR:76.1/62.5/9.0, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:215/481, Alk Phos / T Bili:183/1.2,
   Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6 %, Eos:1.6 %, Lactic
   Acid:1.2 mmol/L, LDH:678 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   #Hypoxemic respiratory failure on vent (APRV) likely [**1-17**] PNA
   [] Cont APRV, wean FiO2 to PaO2 > 65
   #PNA (with persistent hypotension): Continued fever, CXR improved R
   dense opacity. Sputum c MRSA. Vanc level 19.
   [] vanc / aztreonam / clinda
   [] Discuss broadening abx coverage with ID (including consideration of
   fluoroquinolone v. aminoglycoside)
   [] f/u repeat blood cx and sputum sent this morning.
   [] send lipase
   #hct 26 (no increase after 1u pRBC yesterday)
   [] hct [**Hospital1 **], goal hct > 25
   #CV/R: Afib RVR: amio gtt started 2d ago, rebolused with amio yesterday
   now back in NSR
   [] 6g Afib load. Amio 400mg PO tid x 1week
   #CV/I: Elevated cardiac biomarkers: TnI was elevated at 0.5, CKMB flat
   at 9. Most likely [**1-17**] demand in setting of RVR / hypoTN.
   [] cont ASA, defer BB in setting of hypoTN/vasopressor
   #Acute transaminitis. Fri night increase from ALT 19 -> 326; AST 26 ->
   1177. Most likely due to shock liver in setting of hypoTN during Afib
   RVR. Hepatic vein thrombosis unlikely in setting of anti-coagulation.
   Now LFTs trended down to 215 / 481.
   --Defer RUQ U/S for now since unlikely to change management and LFTs
   improving.
   --statin has been d/c
   [] trend LFTs
   #Elevated INR 5.9
 9.1 (coumadin started at 1mg 2 days ago).
   --vit K 5 given this AM, monitor
   #HypoTN: briefly on neo o/n, now back off. UOP 30mL/hr. CVP = 13. fluid
   response in past.
   [] check albumin (may need alb/lasix for diuresis if low)
   [] for total body volume up, attempt gentle diuresis net 0.5L out.
   #s/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   [] Discuss fluid collection with NSY c/s who is following.
   #Elevated Cr: muddy brown casts in urine sed
   #Fevers: afebrile O/N
   [] Cardiology plans TEE on Mon
   [] f/u ID recs, NSY recs
   ICU Care
   Nutrition: tube feed, off at MN for TEE
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2146-10-23 13:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, fevers, intermittent hypoTN, AMS
   HPI: 76M (h/o asthma, gout and recent complicated hospital course
   including epidural abscess requring surgery, enterococcus bactermia,
   aortic endocarditis, septic emboli to brain, atrial thrombus, NSTEMI)
   p/w aspiration PNA with dense, large R-sided infiltrate.
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-10-22**] 11:28 AM
 ULTRASOUND - At [**2146-10-22**] 03:30 PM
   abd
 FEVER - 101.3
F - [**2146-10-22**] 08:00 PM
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-21**] 07:35 PM
   Clindamycin - [**2146-10-23**] 08:30 AM
   Aztreonam - [**2146-10-23**] 09:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2146-10-22**] 02:55 PM
   Amiodarone - [**2146-10-23**] 01:07 AM
   Pantoprazole (Protonix) - [**2146-10-23**] 10:00 AM
   Furosemide (Lasix) - [**2146-10-23**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-23**] 01:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.7
C (101.6
   HR: 92 (73 - 157) bpm
   BP: 148/50(76) {91/38(55) - 160/57(85)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 16 (12 - 17)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  4,046 mL
                                                                    755 mL
   PO:
   TF:
   IVF:
                                                                  3,141 mL
                                                                    605 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                    800 mL
                                                                    865 mL
   Urine:
                                                                    800 mL
                                                                    865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,246 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 650 (498 - 650) mL
   RR (Spontaneous): 5
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.39/33/135/24/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GEN: sedated
   Heent: intubated
   Cor: RRR no m/r/g
   Lung: bilateral rhonchi
   Abd: soft NT/nd +BS
   Ext: +LE edema, no c/c
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact),
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   297 K/uL
   95 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   45 mg/dL
   109 mEq/L
   138 mEq/L
   26.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2146-10-22**]  06:16 AM
                             [**2146-10-22**]  07:59 AM
                             [**2146-10-22**]  09:56 AM
                             [**2146-10-22**]  12:45 PM
                             [**2146-10-22**]  04:43 PM
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
   WBC
   8.3
   8.4
   9.4
   Hct
   25.7
   25.4
   26.2
   Plt
   [**Telephone/Fax (3) 9856**]
   Cr
   3.0
   3.1
   3.5
   TropT
   0.71
   0.70
   TCO2
   21
   22
   21
   20
   20
   21
   21
   Glucose
   99
   107
   95
   Other labs: PT / PTT / INR:76.1/62.5/9.0, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:215/481, Alk Phos / T Bili:183/1.2,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Lactic Acid:1.2 mmol/L, LDH:678 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   #Hypoxemic respiratory failure on vent (APRV)
   --Cont APRV, wean FiO2 to 0.5 and further PaO2 > 65
   --Consider switch to PCV in AM
   #HypoTN resolved, now off neo. Monitor
   #Continued fever. PNA: CXR--bilateral infiltrates improved. Vanc level
   therapeutic.
   [] cont vanc / aztreonam / clinda
   [] send sputum cx.
   [] f/u blood, urine cx.
   [] send lipase
   --Discussed broadening abx with ID since continued fevers. ID
   recommended staying with vanc (rather than lineazolid). If hypoTN or
   other clinical deterioration will re-discuss broadening with ID
   [] TEE on Mon
   [] f/u ID recs, NSY recs
   [] if fevers persist, consider glucan / galactomannan
   #Afib RVR: amio gtt started Friday. rebolused o/n.
   [] amio 400mg PO tid x1 week, start today
   #Acute transaminitis. Fri PM increase from ALT 19 -> 326; AST 26 ->
   1177. Now trended down. Most likely due to shock liver in setting of
   hypoTN during Afib RVR. Hepatic vein thrombosis unlikely in setting of
   anti-coagulation.
   --Defer RUQ U/S for now since unlikely to change management.
   --Statin d/c'ed.
   [] trend LFTs
   [] d/c statin
   #Elevated cardiac biomarkers: TnI was elevated at 0.5, CKMB flat at 9.
   Most likely [**1-17**] demand in setting of RVR / hypoTN.
   [] cont ASA
   -- defer BB in setting of intermittent hypoTN
   #Elevated INR 5.9 to 9. Coumadin held x2d
   --Vit K 5 x1 today. [**Month (only) 8**] need more vit K tomorrow.
   #s/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   [] NSY recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-10-19**] 02:05 AM
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He is tolerating APRV better with improved ventilation and oxygenation.
   Secretions are minimal.  He continues to have good UO for now despite
   elevated creatinine.  We will attempt slowly diurese if BP and HR
   allow. Broad antibiotics to continue for now until culture data back.
   He may need therapeutic bronchoscopy if there is evidence for mucous
   plugging as pneumonia begins to resolve. His wife has been updated
   regarding his progress.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2146-10-23**] 15:51 ------

2146-10-24 06:20:00 Physician Resident Progress Note
Chief Complaint: Shortness of breath
   24 Hour Events:
 BLOOD CULTURED - At [**2146-10-23**] 09:00 AM
 SPUTUM CULTURE - At [**2146-10-23**] 09:00 AM
 URINE CULTURE - At [**2146-10-23**] 09:00 AM
 FEVER - 102.8
F - [**2146-10-23**] 08:00 AM
   -diuresed well overnight
   HCT 26.2--> 24.4
   Fibrinogen not low
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-23**] 08:00 PM
   Clindamycin - [**2146-10-24**] 12:00 AM
   Aztreonam - [**2146-10-24**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-10-23**] 10:00 AM
   Furosemide (Lasix) - [**2146-10-23**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-24**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.9
C (100.2
   HR: 82 (77 - 94) bpm
   BP: 133/51(75) {104/46(64) - 160/57(85)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 15 (10 - 15)mmHg
   Total In:
                                                                  1,763 mL
                                                                    367 mL
   PO:
   TF:
                                                                    390 mL
                                                                     60 mL
   IVF:
                                                                  1,133 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    260 mL
   Urine:
                                                                  1,925 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -162 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: [**Year (4 digits) 9840**]
   Vt (Spontaneous): 537 (537 - 650) mL
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.36/40/94.[**Numeric Identifier 299**]//-2
   Ve: 8.6 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   257 K/uL
   7.9 g/dL
   95 mg/dL
   3.5 mg/dL
   24 mEq/L
   4.0 mEq/L
   45 mg/dL
   109 mEq/L
   138 mEq/L
   24.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2146-10-22**]  04:43 PM
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
   WBC
   8.4
   9.4
   8.2
   7.4
   Hct
   25.4
   26.2
   24.4
   24.2
   Plt
   [**Telephone/Fax (3) 9872**]57
   Cr
   3.1
   3.5
   TropT
   0.70
   TCO2
   20
   20
   21
   21
   21
   24
   Glucose
   107
   95
   Other labs: PT / PTT / INR:15.7/38.8/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:215/481, Alk Phos / T Bili:183/1.2,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, LDH:678
   IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right Lung Pneumonia which seems
   to involve the entire lung field on CXR; it seems to have slightly
   improved since yesterday on CXR.  Patient on [**Last Name (LF) 9840**], [**First Name3 (LF) 124**] cont to wean as
   tolerated.  On Vanc/Aztreonam/Clinda, but persistently febrile.
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider broadening if
   decompensates
   -daily chest x-rays
   .
   # Hypotension/Sepsis:  Likely [**1-17**] Pneumonia. UOP and BP were fluid
   responsive yesterday and neo was weaned. Currently off pressors.
   - now off pressors and fluid overloaded, will begin diuresis
   - abx as above
   - albumin
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred last night and resolved with
   second IV load, now on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week, then taper
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, ASA, statin on hold given tranaminitis
   # Fevers:  Persistent fevers. Does not necessarily represent failure of
   current Abx. BCx negative to date. Need TEE to rule out progession of
   endocarditis.
   -- cont Vanco/Aztreonam/Clinda
   -- f/u ID recs
   -- f/u Neurosurgery recs (no plans for surgery currently)
   -- f/u blood cultures, Ucx
   -- lipase
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  INR 9 today (likely combo of amio,
   shock liver, Abx). Given 5mg IV Vit K.
   -- follow PT/INR, goal [**1-18**]
   .
   # Enterococcal Bacteremia:  Developed rash to Amp/CTX changed to dapto,
   now on Vanco
   -- f/u blood cultures
   -- cont Vanco/Aztreonam/Clinda as above
   -- f/u ID recs
   -- obtain TEE per ID recs
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   # Asthma:
   -- Ipratropium nebs PRN
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, anticoagulated, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-24 10:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 102.8
   - Neurosurgery came by - nothing to add at this time.
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-23**] 08:00 PM
   Aztreonam - [**2146-10-24**] 08:00 AM
   Clindamycin - [**2146-10-24**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-23**] 09:00 PM
   Pantoprazole (Protonix) - [**2146-10-24**] 08:00 AM
   Other medications:
   Colace, PPI, Gabapentin, Lido TD, Vanco, Versed, Clinda, Aztreonam,
   Fentanyl gtt, Atrovent, Amio, Aspirin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-24**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.5
   HR: 89 (77 - 94) bpm
   BP: 150/50(79) {104/46(64) - 153/57(81)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (10 - 15)mmHg
   Total In:
                                                                  1,763 mL
                                                                    601 mL
   PO:
   TF:
                                                                    390 mL
                                                                     60 mL
   IVF:
                                                                  1,133 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,925 mL
                                                                    675 mL
   Urine:
                                                                  1,925 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -162 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 537 (537 - 650) mL
   RR (Spontaneous): 10
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: 7.36/40/94.[**Numeric Identifier 299**]/21/-2
   Ve: 10.8 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R, Diminished: R, L
   base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   257 K/uL
   123 mg/dL
   3.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   46 mg/dL
   107 mEq/L
   138 mEq/L
   24.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2146-10-22**]  04:43 PM
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
   WBC
   8.4
   9.4
   8.2
   7.4
   Hct
   25.4
   26.2
   24.4
   24.2
   Plt
   [**Telephone/Fax (3) 9872**]57
   Cr
   3.1
   3.5
   3.1
   TropT
   0.70
   TCO2
   20
   20
   21
   21
   21
   24
   Glucose
   107
   95
   123
   Other labs: PT / PTT / INR:15.7/38.8/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:215/481, Alk Phos / T Bili:183/1.2,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, LDH:678
   IU/L, Ca++:7.0 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR
 Improved R sided infiltrate.
   Microbiology: Sputum + MRSA; No other new cultures.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   #Hypoxemic respiratory failure on vent (APRV): Likely [**1-17**] to
   HAP/aspiration PNA + pulmonary edema.
   - Cont APRV, wean FiO2 to 0.5 and further PaO2 > 65
   - Consider switching to PCV
   - Continue abx (vanc/aztreonam/clinda) for aspiration/HAP
   - Continue diuresis
   #HypoTN: [**1-17**] Afib. Now resolved and off neo. Continue to follow.  This
   is likely etiology of renal failure too.
   #Continued fevers. PNA: CXR--bilateral infiltrates improved. Vanc level
   therapeutic.
   - Cont vanc / aztreonam / clinda (check vanc level)
   - Pan culture: sputum / blood/ urine
   - Send glucan / galactomannan
   - Discussed broadening abx with ID since continued fevers. ID
   recommended staying with vanc (rather than lineazolid). If hypoTN or
   other clinical deterioration will re-discuss broadening with ID
   - TEE today
   - F/U ID and NSG recs
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio 400mg PO tid x1 week, started Sunday [**10-23**]
   #Acute transaminitis. Fri PM increase from ALT 19 -> 326; AST 26 ->
   1177. Now trended down. Most likely due to shock liver in setting of
   hypoTN during Afib RVR. Hepatic vein thrombosis unlikely in setting of
   anti-coagulation.
   - Defer RUQ U/S for now since unlikely to change management.
   - Statin d/c'ed.
   - Trend LFTs
   #Elevated cardiac biomarkers: Most likely [**1-17**] demand in setting of RVR
   / hypoTN.
   - Cont ASA
   - Defer BB in setting of intermittent hypoTN
   #Atrial thrombus: Elevated INR 5.9 to 9. Coumadin held x3d, now 1.4
   - Start heparin gtt
   #S/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   - NSY
 no intervention for now
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-10-25 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2146-10-24**] 10:40 AM
 BLOOD CULTURED - At [**2146-10-24**] 11:30 AM
   fungal cx.
 FEVER - 101.2
F - [**2146-10-24**] 12:00 PM
   TEE done yesterday shows smal Vegetation on Aortic Valve, no Atrial
   appendage thrombus seen
   Lasix 40mg IV x 1 and then 20mg IV x 1 given with good response, -500cc
   at midnight
   Weaned down to AC around 8am
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-23**] 08:00 PM
   Clindamycin - [**2146-10-24**] 11:16 PM
   Aztreonam - [**2146-10-25**] 12:06 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-10-24**] 08:00 AM
   Heparin Sodium - [**2146-10-24**] 03:30 PM
   Furosemide (Lasix) - [**2146-10-24**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.7
   HR: 80 (74 - 89) bpm
   BP: 126/45(69) {106/40(60) - 150/61(87)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (8 - 12)mmHg
   Total In:
                                                                  1,873 mL
                                                                    698 mL
   PO:
   TF:
                                                                    660 mL
                                                                    442 mL
   IVF:
                                                                    983 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    550 mL
   Urine:
                                                                  2,340 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -467 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 8 L/min
   Physical Examination
   Gen: Intubated, Sedated
   Lungs Rhochi bilaterally on anterior exam
   CV: RRR. No murmurs
   Abdomen: Distended. NT. +BS. Soft. No rebound or guarding
   Extremities: WWP. 2+ LE edema bilaterally
   Labs / Radiology
   221 K/uL
   7.5 g/dL
   142 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   51 mg/dL
   107 mEq/L
   139 mEq/L
   22.8 %
   7.6 K/uL
   [**10-24**] Blood culture pending
   [**10-23**] Sputum: S. aureus
   [**10-22**] Sputum: S. aureus
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
                            [**2146-10-25**]  03:41 AM
   WBC
   9.4
   8.2
   7.4
   7.6
   Hct
   26.2
   24.4
   24.2
   22.8
   Plt
   297
   277
   257
   221
   Cr
   3.5
   3.1
   3.2
   TCO2
   20
   20
   21
   21
   21
   24
   Glucose
   95
   123
   142
   Other labs: PT / PTT / INR:17.1/150.0/1.5, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:122/107, Alk Phos / T Bili:217/0.9,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:678 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right aspiration Pneumonia.
   Patient on APRV, weaned to AC, then PS this morning.    On Vanc (day 6
   of 14) /Aztreonam (day 6 of 14)/ Clinda (day 5 of 10)
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider broadening if
   decompensates
   -diurese with 40 IV lasix for goal negative 1-2L
   -MDIs PRN
   -f/u ABG
   -advance ET tube this morning
   -daily chest x-rays
   .
   # Hypotension/Sepsis:  Resolved.  Likely [**1-17**] Pneumonia. Currently off
   pressors.
   - now off pressors and fluid overloaded, will cont diuresis
   - abx as above
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week (day 1 = [**10-23**]), then taper
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, ASA, statin on hold given tranaminitis
   # Fevers:  Persistent fevers. Does not necessarily represent failure of
   current Abx. BCx negative to date. TEE negative for new endovascular
   infection. Sputum cultures growing S. aureus Has known enterococcal
   bacteremia.  Developed rash to ampicillin and ceftriaxone.  Now on
   Vancomycin.
   -- cont Vanco (day 6 of 14) /Aztreonam (day 6 of 14) /Clinda (day 5 of
   10)
   -- f/u ID recs
   -- f/u Neurosurgery recs (no plans for surgery currently)
   -- f/u blood cultures, Ucx
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO,
   last ECHO also reviewed and per Dr. [**Last Name (STitle) 2263**], no thrombus seen
   -d/d heparin gtt
   .
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -d/c heparin gtt
   -active T&S
   -check [**Hospital1 **] HCT
   -guaiac stools
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-25 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - TEE - small vegetation on aortic valve.  No atrial trombus.
   - Tm 101.2
   - Diuresed
   - Changed from APVR to AC
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-23**] 08:00 PM
   Aztreonam - [**2146-10-25**] 08:00 AM
   Clindamycin - [**2146-10-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 700 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2146-10-24**] 03:30 PM
   Furosemide (Lasix) - [**2146-10-24**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-25**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 83 (74 - 86) bpm
   BP: 135/47(72) {106/40(60) - 148/61(87)} mmHg
   RR: 12 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 14 (8 - 14)mmHg
   Total In:
                                                                  1,873 mL
                                                                  1,321 mL
   PO:
   TF:
                                                                    660 mL
                                                                    827 mL
   IVF:
                                                                    983 mL
                                                                    464 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    855 mL
   Urine:
                                                                  2,340 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -467 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 9.8 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : R, Diminished: L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   221 K/uL
   142 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   51 mg/dL
   107 mEq/L
   139 mEq/L
   22.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2146-10-22**]  04:57 PM
                             [**2146-10-23**]  01:29 AM
                             [**2146-10-23**]  05:24 AM
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
                            [**2146-10-25**]  03:41 AM
   WBC
   9.4
   8.2
   7.4
   7.6
   Hct
   26.2
   24.4
   24.2
   22.8
   Plt
   297
   277
   257
   221
   Cr
   3.5
   3.1
   3.2
   TCO2
   20
   20
   21
   21
   21
   24
   Glucose
   95
   123
   142
   Other labs: PT / PTT / INR:17.1/150.0/1.5, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:122/107, Alk Phos / T Bili:217/0.9,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:678 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR -
   Microbiology: Sputum cultures with staph aureus
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   #Hypoxemic respiratory failure on vent (APRV): Likely [**1-17**] to
   HAP/aspiration PNA + pulmonary edema.
   - Cont APRV, wean FiO2 to 0.5 and further PaO2 > 65
   - Consider switching to PCV
   - Continue abx (vanc/aztreonam/clinda) for aspiration/HAP
   - Continue diuresis
   - Advance ET tube 3 cm
   #HypoTN: [**1-17**] Afib. Now resolved and off neo. Continue to follow.  This
   is likely etiology of renal failure too.
   #Continued fevers. PNA: CXR--bilateral infiltrates improved. Vanc level
   therapeutic.
   - Cont vanc / aztreonam / clinda (check vanc level)
   - Pan culture: sputum / blood/ urine
   - Send glucan / galactomannan
   - Discussed broadening abx with ID since continued fevers. ID
   recommended staying with vanc (rather than lineazolid). If hypoTN or
   other clinical deterioration will re-discuss broadening with ID
   - TEE today
   - F/U ID and NSG recs
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio 400mg PO tid x1 week, started Sunday [**10-23**]
   #Acute transaminitis. Fri PM increase from ALT 19 -> 326; AST 26 ->
   1177. Now trended down. Most likely due to shock liver in setting of
   hypoTN during Afib RVR. Hepatic vein thrombosis unlikely in setting of
   anti-coagulation.
   - Defer RUQ U/S for now since unlikely to change management.
   - Statin d/c'ed.
   - Trend LFTs
   #Elevated cardiac biomarkers: Most likely [**1-17**] demand in setting of RVR
   / hypoTN.
   - Cont ASA
   - Defer BB in setting of intermittent hypoTN
   #Atrial thrombus: Elevated INR 5.9 to 9. Coumadin held x3d, now 1.4
   - Start heparin gtt
   #S/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   - NSY
 no intervention for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2146-10-25**] 06:02 AM 80 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2146-10-26 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2146-10-25**] 04:15 PM
 FEVER - 101.9
F - [**2146-10-25**] 04:00 PM
   - heparin drip stopped, SQH started
   - renal fxn improving, diuresis continued
   - guiaic negative
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-23**] 08:00 PM
   Aztreonam - [**2146-10-26**] 12:00 AM
   Clindamycin - [**2146-10-26**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-10-26**] 12:00 AM
   Furosemide (Lasix) - [**2146-10-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-26**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.6
C (99.7
   HR: 89 (79 - 106) bpm
   BP: 131/50(74) {115/41(64) - 195/59(99)} mmHg
   RR: 16 (11 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 4 (4 - 14)mmHg
   Total In:
                                                                  2,526 mL
                                                                    554 mL
   PO:
   TF:
                                                                  1,424 mL
                                                                    278 mL
   IVF:
                                                                    862 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                  1,160 mL
   Urine:
                                                                  3,815 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,289 mL
                                                                   -606 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 653 (160 - 741) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.38/41/86/25/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: CTAB : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   247 K/uL
   7.6 g/dL
   126 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   49 mg/dL
   108 mEq/L
   141 mEq/L
   24.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
                            [**2146-10-25**]  03:41 AM
                            [**2146-10-25**]  11:19 AM
                            [**2146-10-25**]  04:45 PM
                            [**2146-10-26**]  04:03 AM
   WBC
   8.2
   7.4
   7.6
   9.3
   Hct
   24.4
   24.2
   22.8
   24.2
   24.2
   Plt
   277
   257
   221
   247
   Cr
   3.1
   3.2
   3.0
   2.9
   TCO2
   21
   21
   21
   24
   25
   Glucose
   123
   142
   141
   126
   Other labs: PT / PTT / INR:17.7/38.2/1.6, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:85/66, Alk Phos / T Bili:267/0.7,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:356 IU/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/Dl
   Beta glucan negative
   Galactomannam
   All bcx negative or pending
   MRSA in sputum from [**10-23**]
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right aspiration Pneumonia.
   Patient on APRV, weaned to AC, then PS yesterday. CXR subsequently
   worsesend with reduced PEEP likely [**1-17**] increased atelectasis.   On Vanc
   (day 7 of 14) /Aztreonam (day 7 of 14)/ Clinda (day 6 of 10)
   -increase PEEP to 10, maintain PS at 5.
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider broadening if
   decompensates
   -diurese with 40 IV lasix for goal negative 1-2L
   -MDIs PRN
   -f/u ABG
   -pull back ET tube this morning 1-2cm
   -daily chest x-rays
   .
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week (day 1 = [**10-23**]), then taper
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, consider restart ASA, statin
   # Fevers:  Persistent fevers. Does not necessarily represent failure of
   current Abx. BCx negative to date. TEE negative for new endovascular
   infection. Sputum cultures growing S. aureus Has known enterococcal
   bacteremia.  Developed rash to ampicillin and ceftriaxone.  Now on
   Vancomycin.
   -- f/u ID recs
   -- f/u Neurosurgery recs (no plans for surgery currently)
   -- f/u blood cultures, Ucx
   -- CT torso to eval for empyema and/or abdominal process
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO,
   last ECHO also reviewed and per Dr. [**Last Name (STitle) 2263**], no thrombus seen
   -d/c
ed heparin gtt
   - consider starting asa 325
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-25**] 11:47 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2146-10-26 11:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 101.9
   - Guiac negative
   - PS decreased from [**7-23**] to [**4-19**]
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-23**] 08:00 PM
   Aztreonam - [**2146-10-26**] 08:00 AM
   Clindamycin - [**2146-10-26**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-26**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-10-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-26**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.2
   HR: 87 (81 - 106) bpm
   BP: 136/49(74) {120/41(64) - 195/59(99)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 5 (3 - 14)mmHg
   Total In:
                                                                  2,565 mL
                                                                  1,009 mL
   PO:
   TF:
                                                                  1,424 mL
                                                                    449 mL
   IVF:
                                                                    900 mL
                                                                    501 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                  1,600 mL
   Urine:
                                                                  3,815 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                   -591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 375 (160 - 741) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.38/41/86/25/0
   Ve: 5.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : R,
   Diminished: R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   247 K/uL
   126 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.8 mEq/L
   49 mg/dL
   108 mEq/L
   141 mEq/L
   24.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2146-10-23**]  05:31 AM
                             [**2146-10-23**]  12:18 PM
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
                            [**2146-10-25**]  03:41 AM
                            [**2146-10-25**]  11:19 AM
                            [**2146-10-25**]  04:45 PM
                            [**2146-10-26**]  04:03 AM
   WBC
   8.2
   7.4
   7.6
   9.3
   Hct
   24.4
   24.2
   22.8
   24.2
   24.2
   Plt
   277
   257
   221
   247
   Cr
   3.1
   3.2
   3.0
   2.9
   TCO2
   21
   21
   21
   24
   25
   Glucose
   123
   142
   141
   126
   Other labs: PT / PTT / INR:17.7/38.2/1.6, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:85/66, Alk Phos / T Bili:267/0.7,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:356 IU/L, Ca++:7.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Glucan negative.
   Imaging: CXR- Worsening R-sided infiltrate/effusion.
   Microbiology: [**10-25**] C. diff negative.  [**10-23**] sputum culture + MRSA,
   yeast
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.
   - On PS with worsening CXR, likely [**1-17**] lower PEEP.  Will increase and
   repeat CXR in am.  Consider bronch if no improvement tomorrow.
   - Continue abx (vanc/aztreonam Day [**6-28**] and clinda Day [**5-25**]) for
   aspiration/HAP
   - Continue diuresis
   - Bronchodilators
   - Pull back ET tube 2 cm
   No attempt to wean on PSV until secretions/ fevers and clinical wheeze
   improve
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. DVT unlikely given recent
   anticoagulation and now SQ heparin.  Would consider effusion/empymea
   given CXR appearance.  Drug fever would be dx of exclusion.
   - CT scan to evaluate for possible R sided effusion
 if effusion
   ,would have concern for empyema as source of fevers
   - Will scan abd/pelvis while at CT scanner
   - Cont vanc / aztreonam / clinda
   - F/U cultures
   - F/U galactomannan
   - F/U ID and NSG recs
   # Anemia: Hct stable.  No obvious source of bleeding.  Stool occult
   negative.
   - Hct goal >21
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio 400mg PO tid x1 week, started Sunday [**10-23**]
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   #Acute transaminitis: Most likely due to shock liver in setting of
   hypoTN during Afib RVR.
   - Trend LFTs
   - Restart lipitor
   #S/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   - NSY
 no intervention for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-25**] 11:47 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-10-27 06:32:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   CT torso:
   1. Multifocal pneumonia with bilateral pleural effusions.
   2. Diffuse anasarca.
   3. Biliary sludge.
   4. Diverticulosis without evidence of diverticulitis.
   HCT down to 22.4
   C diff negative
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-26**] 08:05 PM
   Clindamycin - [**2146-10-27**] 12:00 AM
   Aztreonam - [**2146-10-27**] 12:29 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-26**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-10-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-27**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37
C (98.6
   HR: 77 (71 - 88) bpm
   BP: 129/41(66) {110/39(60) - 150/56(84)} mmHg
   RR: 12 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 5 (3 - 9)mmHg
   Total In:
                                                                  3,201 mL
                                                                    547 mL
   PO:
   TF:
                                                                  1,011 mL
                                                                    274 mL
   IVF:
                                                                  1,200 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                  1,010 mL
   Urine:
                                                                  3,720 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -519 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 735 (375 - 735) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: CTAB : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   268 K/uL
   7.4 g/dL
   116 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   49 mg/dL
   107 mEq/L
   138 mEq/L
   22.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
                            [**2146-10-25**]  03:41 AM
                            [**2146-10-25**]  11:19 AM
                            [**2146-10-25**]  04:45 PM
                            [**2146-10-26**]  04:03 AM
                            [**2146-10-26**]  05:15 PM
                            [**2146-10-27**]  04:15 AM
   WBC
   8.2
   7.4
   7.6
   9.3
   12.2
   Hct
   24.4
   24.2
   22.8
   24.2
   24.2
   22.4
   Plt
   277
   257
   221
   247
   268
   Cr
   3.1
   3.2
   3.0
   2.9
   2.7
   2.7
   TCO2
   21
   24
   25
   Glucose
   123
   142
   141
   126
   118
   116
   Other labs: PT / PTT / INR:16.3/38.4/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:58/36, Alk Phos / T Bili:203/0.6,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:356 IU/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right aspiration Pneumonia.
   Patient on APRV, weaned to AC, then PS yesterday. CXR subsequently
   worsesend with reduced PEEP likely [**1-17**] increased atelectasis.   On Vanc
   (day 7 of 14) /Aztreonam (day 7 of 14)/ Clinda (day 6 of 10)
   -increase PEEP to 10, maintain PS at 5.
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider broadening if
   decompensates
   -diurese with 40 IV lasix for goal negative 1-2L
   -MDIs PRN
   -f/u ABG
   -pull back ET tube this morning 1-2cm
   -daily chest x-rays
   .
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week (day 1 = [**10-23**]), then taper
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, consider restart ASA, statin
   # Fevers:  Persistent fevers. Does not necessarily represent failure of
   current Abx. BCx negative to date. TEE negative for new endovascular
   infection. Sputum cultures growing S. aureus Has known enterococcal
   bacteremia.  Developed rash to ampicillin and ceftriaxone.  Now on
   Vancomycin.
   -- f/u ID recs
   -- f/u Neurosurgery recs (no plans for surgery currently)
   -- f/u blood cultures, Ucx
   -- CT torso to eval for empyema and/or abdominal process
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Patient
   was given Morphine 4mg IV x 3 in ED which may have contributed to AMS.
   Currently unable to assess mental status given large amount of
   sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO,
   last ECHO also reviewed and per Dr. [**Last Name (STitle) 2263**], no thrombus seen
   -d/c
ed heparin gtt
   - consider starting asa 325
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-26**] 11:24 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-27 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CT torso - multifocal PNA, bilateral effusions, biliary sludge,
   diverticulosis
   - C. diff negative
   - Tm 100.9
   - Possible aspiration this am after CXR when OG tube came out while TF
   were running - now with increased secretions and rhoncorous breath
   sounds
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-26**] 08:05 PM
   Aztreonam - [**2146-10-27**] 08:00 AM
   Clindamycin - [**2146-10-27**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-26**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-27**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.4
C (99.4
   HR: 79 (71 - 88) bpm
   BP: 128/44(69) {110/38(60) - 150/56(84)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 5 (5 - 10)mmHg
   Total In:
                                                                  3,202 mL
                                                                    919 mL
   PO:
   TF:
                                                                  1,011 mL
                                                                    432 mL
   IVF:
                                                                  1,201 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                  1,330 mL
   Urine:
                                                                  3,720 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -518 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 636 (465 - 735) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   268 K/uL
   116 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   49 mg/dL
   107 mEq/L
   138 mEq/L
   22.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2146-10-23**]  03:56 PM
                             [**2146-10-23**]  04:18 PM
                             [**2146-10-24**]  05:01 AM
                             [**2146-10-24**]  05:41 AM
                            [**2146-10-25**]  03:41 AM
                            [**2146-10-25**]  11:19 AM
                            [**2146-10-25**]  04:45 PM
                            [**2146-10-26**]  04:03 AM
                            [**2146-10-26**]  05:15 PM
                            [**2146-10-27**]  04:15 AM
   WBC
   8.2
   7.4
   7.6
   9.3
   12.2
   Hct
   24.4
   24.2
   22.8
   24.2
   24.2
   22.4
   Plt
   277
   257
   221
   247
   268
   Cr
   3.1
   3.2
   3.0
   2.9
   2.7
   2.7
   TCO2
   21
   24
   25
   Glucose
   123
   142
   141
   126
   118
   116
   Other labs: PT / PTT / INR:16.3/38.4/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:58/36, Alk Phos / T Bili:203/0.6,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:356 IU/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: CT torso - multifocal PNA, bilateral effusions, biliary
   sludge, diverticulosis
   Microbiology: C. diff negative.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.
   - On PS with worsening CXR, likely [**1-17**] lower PEEP.  Will increase and
   repeat CXR in am.  Consider bronch if no improvement tomorrow.
   - Continue abx (vanc/aztreonam Day [**7-29**] and clinda Day [**6-24**]) for
   aspiration/HAP
   - Continue diuresis with lasix gtt, follow [**Last Name (LF) **], [**First Name3 (LF) **] need albumin
   - Bronchodilators
   - Recheck CXR given possible aspiration this am
   - No attempt to wean on PSV until secretions/ fevers improve
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. DVT unlikely given recent
   anticoagulation and now SQ heparin.  Effusions on CT do not appear to
   be empyemas.  Drug fever would be dx of exclusion.
   - Cont vanc / aztreonam / clinda
   - F/U cultures, fever curve? Switch to flagyl with concerns regarding C
   Diff
   - Appreciate ID input
   # Anemia: Hct stable.  No obvious source of bleeding.  Stool occult
   negative.
   - Hct goal >25
 Transfuse 1 unit PRBC today.
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio 400mg PO tid x1 week, started Sunday [**10-23**]
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   #Acute transaminitis: Most likely due to shock liver in setting of
   hypoTN during Afib RVR.
   - Trend LFTs
   - Restart lipitor
   #S/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   - NSY
 no intervention for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-26**] 11:24 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-10-28 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2146-10-27**] 08:00 PM
   Repeat CXR stable
   PRBC not given until PM as patient has antibodies and blood needed to
   be screened.  HCT 25 at midnight s/p transfusion.
   UOP responding well to lasix.  4L of UOP by midnight, -2.3L net at MN
   ID recs: recommended sending Urine Legionella and Sputum for Legionella
   Clindamycin d/ced yesterday [**1-17**] continued fevers and concern for
   c.diff.  Stool for c.diff also sent.
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-26**] 08:05 PM
   Clindamycin - [**2146-10-27**] 08:00 AM
   Aztreonam - [**2146-10-28**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-27**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-28**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.5
C (99.5
   HR: 88 (76 - 104) bpm
   BP: 138/54(81) {116/38(60) - 170/62(98)} mmHg
   RR: 23 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 12 (5 - 16)mmHg
   Total In:
                                                                  2,225 mL
                                                                    524 mL
   PO:
   TF:
                                                                  1,014 mL
                                                                    298 mL
   IVF:
                                                                    770 mL
                                                                    225 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,570 mL
                                                                  1,250 mL
   Urine:
                                                                  4,570 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -726 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (438 - 636) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   SpO2: 100%
   ABG: 7.44/43/251/28/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 502
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   8.0 g/dL
   108 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   46 mg/dL
   106 mEq/L
   141 mEq/L
   25.2 %
   12.9 K/uL
        [image002.jpg]
                            [**2146-10-25**]  03:41 AM
                            [**2146-10-25**]  11:19 AM
                            [**2146-10-25**]  04:45 PM
                            [**2146-10-26**]  04:03 AM
                            [**2146-10-26**]  05:15 PM
                            [**2146-10-27**]  04:15 AM
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
   WBC
   7.6
   9.3
   12.2
   12.9
   Hct
   22.8
   24.2
   24.2
   22.4
   23.4
   25.0
   25.2
   Plt
   221
   247
   268
   316
   Cr
   3.2
   3.0
   2.9
   2.7
   2.7
   2.5
   2.5
   TCO2
   25
   30
   Glucose
   142
   141
   126
   118
   116
   121
   108
   Other labs: PT / PTT / INR:16.3/38.4/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:58/36, Alk Phos / T Bili:203/0.6,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:356 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right aspiration Pneumonia.
   Patient on APRV, weaned to AC, then PS yesterday. CXR subsequently
   worsesend with reduced PEEP likely [**1-17**] increased atelectasis.   On Vanc
   (day 8 of 14) /Aztreonam (day 8 of 14)/ Clinda (day 7 of 10)
   -keep PEEP at 10, maintain PS at 5.
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam/Clinda for PNA, consider broadening if
   decompensates
   -diurese with lasix drip for goal negative 2L
   -MDIs PRN
   -f/u ABG
   -daily chest x-rays
   .
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week (day 1 = [**10-23**]), then taper
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin
   # Fevers:  Persistent fevers. Does not necessarily represent failure of
   current Abx. BCx negative to date. TEE negative for new endovascular
   infection. Sputum cultures growing S. aureus Has known enterococcal
   bacteremia.  Developed rash to ampicillin and ceftriaxone.  Now on
   Vancomycin.
   -- f/u ID recs
   -- f/u Neurosurgery recs (no plans for surgery currently)
   -- f/u blood cultures, Ucx
   -- CT torso did not reveal obvious source of infxn
   .
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Currently
   unable to assess mental status given large amount of sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO,
   last ECHO also reviewed and per Dr. [**Last Name (STitle) 2263**], no thrombus seen
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: no acute issues
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-27**] 11:03 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-28 09:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 101.9
   - Clinda d/c'ed out of concern for c. diff
   - 1 unit PRBC - Hct stable after transfusion
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-26**] 08:05 PM
   Clindamycin - [**2146-10-27**] 08:00 AM
   Aztreonam - [**2146-10-28**] 09:09 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2146-10-27**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-10-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-28**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.4
C (99.3
   HR: 83 (79 - 104) bpm
   BP: 89/47(62) {89/44(62) - 170/62(98)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 7 (5 - 16)mmHg
   Total In:
                                                                  2,225 mL
                                                                    874 mL
   PO:
   TF:
                                                                  1,014 mL
                                                                    412 mL
   IVF:
                                                                    771 mL
                                                                    342 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,570 mL
                                                                  1,700 mL
   Urine:
                                                                  4,570 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,345 mL
                                                                   -826 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 531 (438 - 537) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.44/43/251/28/5
   Ve: 9.6 L/min
   PaO2 / FiO2: 628
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   316 K/uL
   108 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.1 mEq/L
   46 mg/dL
   106 mEq/L
   141 mEq/L
   25.2 %
   12.9 K/uL
        [image002.jpg]
                            [**2146-10-25**]  03:41 AM
                            [**2146-10-25**]  11:19 AM
                            [**2146-10-25**]  04:45 PM
                            [**2146-10-26**]  04:03 AM
                            [**2146-10-26**]  05:15 PM
                            [**2146-10-27**]  04:15 AM
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
   WBC
   7.6
   9.3
   12.2
   12.9
   Hct
   22.8
   24.2
   24.2
   22.4
   23.4
   25.0
   25.2
   Plt
   221
   247
   268
   316
   Cr
   3.2
   3.0
   2.9
   2.7
   2.7
   2.5
   2.5
   TCO2
   25
   30
   Glucose
   142
   141
   126
   118
   116
   121
   108
   Other labs: PT / PTT / INR:16.3/38.4/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:58/36, Alk Phos / T Bili:203/0.6,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:356 IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR - Stable.
   Microbiology: Sputum legionella culture pending. C.diff ordered.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.  CXR improving.
   - Continue abx (vanc/aztreonam Day [**8-29**]) for aspiration/HAP
   - Continue diuresis with lasix gtt, follow [**Last Name (LF) **], [**First Name3 (LF) **] need albumin
   - Bronchodilators
   - No attempt to wean on PSV until secretions/ fevers improve
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. DVT unlikely given recent
   anticoagulation and now SQ heparin.  Effusions on CT do not appear to
   be empyemas.  C .diff a posibility given increased diarrhea and clinda
   use.  Drug fever would be dx of exclusion.
   - Cont vanc / aztreonam
   - Clinda d/c'ed and c. diff ordered.
   - F/U cultures, sputum legionella culture, fever curve
   - Appreciate ID input
   # Anemia: Hct stable.  No obvious source of bleeding.  Stool occult
   negative.
   - Hct goal >25
 Transfuse 1 unit PRBC today.
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio 400mg PO tid x1 week, started Sunday [**10-23**]
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   #Acute transaminitis: Most likely due to shock liver in setting of
   hypoTN during Afib RVR.
   - Trend LFTs
   - Restart lipitor
   #S/p epidural abscess, aortic endocarditis. Repeat spine MRI showed
   discitis L5-S1 that shows no progression compared with MR 3-4wks ago.
   New small fluid collection of uncertain significance.
   - NSY
 no intervention for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-27**] 11:03 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2146-10-29 07:27:00 Physician Attending Progress Note
Chief Complaint: Aspiration, Atrial Fibrillation
   HPI:
   24 Hour Events:
   -- Found to have contracted LLE contracture, concern for cord
   compression, obtained MRI after discussion with Neurosurgery
   -- Marked pain, P-boots d/c
d, neurontin increased
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-26**] 08:05 PM
   Clindamycin - [**2146-10-27**] 08:00 AM
   Aztreonam - [**2146-10-29**] 12:14 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Other medications:
   ASA, Amiodarone, Hep sc, Lipitor, atrovent, neurontin, lidoderm patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-29**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 90 (79 - 92) bpm
   BP: 165/49(80) {84/41(62) - 182/89(104)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 4 (2 - 42)mmHg
   Total In:
                                                                  1,970 mL
                                                                    591 mL
   PO:
   TF:
                                                                  1,172 mL
                                                                    313 mL
   IVF:
                                                                    678 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    310 mL
   Urine:
                                                                  2,825 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -855 mL
                                                                    281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 677 (416 - 677) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.42/45/116/29/4
   Ve: 12.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: bounding), (Left radial
   pulse: bounding), (Right DP pulse: dopplerable), (Left DP pulse:
   Dopplerable)
   Respiratory / Chest: (Breath Sounds: Crackles and Diminished at bases:
   )
   Skin:  Not assessed
   Ext: L knee flexed, slightly warm, anasarcic
   Neurologic: Grimaces in pain
   Labs / Radiology
   8.1 g/dL
   427 K/uL
   113 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   46 mg/dL
   104 mEq/L
   140 mEq/L
   25.3 %
   14.7 K/uL
        [image002.jpg]
                            [**2146-10-26**]  04:03 AM
                            [**2146-10-26**]  05:15 PM
                            [**2146-10-27**]  04:15 AM
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
   WBC
   9.3
   12.2
   12.9
   14.7
   Hct
   24.2
   22.4
   23.4
   25.0
   25.2
   25.3
   Plt
   247
   268
   316
   427
   Cr
   2.9
   2.7
   2.7
   2.5
   2.5
   2.2
   2.3
   TCO2
   30
   30
   Glucose
   126
   118
   116
   121
   108
   136
   113
   Other labs: PT / PTT / INR:15.4/32.9/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:52/59, Alk Phos / T Bili:217/0.7,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:309 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Urine Culture
 Pending
   C. Diff
 Negative x2
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate, now improving.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.  CXR improving.
   - Continue abx (vanc/aztreonam Day [**9-28**]) for aspiration/HAP
   - Continue diuresis with lasix gtt, follow UOP, goal -1L/24hrs
   - Bronchodilators
   - Weaned PS to [**4-19**] now, CXR improved, but still poor mental status
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. DVT unlikely given recent
   anticoagulation and now SQ heparin.  Effusions on CT do not appear to
   be empyemas.  Glucan/Galactomannan negative.  C .diff a posibility
   given increased diarrhea and clinda use.  Drug fever would be dx of
   exclusion.
   - Cont vanc / aztreonam
   - Clinda d/c'ed and c. diff ordered.
   - Send urinalysis and culture, F/U sputum legionella culture
   - Appreciate ID input
   # L Leg Contracture: Consider central process, vs inflammatory or
   infectious arthropathy
   - Await MRI read, d/w neurosurgery
   - Monitor L knee, hip, if tappable effusion tap given history of
   hematogenous infection
   # Diffuse Body Pain: Still in marked discomfort despite fentanyl drip,
   neurontin.
   - Increase fentanyl patch, neurontin
   # Anemia: Hct stable s/p 1 unit PRBC yesterday.  No obvious source of
   bleeding.  Stool occult negative.
   - Hct goal >25.
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio 400mg PO tid x1 week, started Sunday [**10-23**], tapering.  Check EKG.
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-29**] 06:51 AM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: Protonix
   VAP: Chlorhexidine, Elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU for now
   Total time spent: 30 minutes

2146-10-29 08:08:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2146-10-29**] 12:14 AM
   -Patient weaned to [**4-19**]
   -weaned sedation overnight
   -late in evening found to have contracted lower extremities
   -Neurosurg called for  concern for cord compression
   -MRI with gad ordered -radiology had concerns over renal function
   -got MRI without gad
   -read pending
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-26**] 08:05 PM
   Clindamycin - [**2146-10-27**] 08:00 AM
   Aztreonam - [**2146-10-29**] 12:14 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-29**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 90 (79 - 92) bpm
   BP: 136/48(73) {84/41(62) - 182/89(104)} mmHg
   RR: 12 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 4 (2 - 42)mmHg
   Total In:
                                                                  1,970 mL
                                                                    634 mL
   PO:
   TF:
                                                                  1,172 mL
                                                                    340 mL
   IVF:
                                                                    678 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    530 mL
   Urine:
                                                                  2,825 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -855 mL
                                                                    104 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 963 (416 - 963) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.42/45/116/29/4
   Ve: 6.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: Intubated, sedated. Grimaces with pain
   CV: RRR. No murmurs.
   Lungs: CTAB on anterior exam. No wheezes or crackles.
   Abdomen: Soft, NT, ND. No masses
   Extremities: L leg contracted. Pain with movement. L knee may be warm,
   though no effusion or erythema.
   R leg without contracture. 1+ DP and PT pulses bilaterally.
   Labs / Radiology
   427 K/uL
   8.1 g/dL
   113 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.0 mEq/L
   46 mg/dL
   104 mEq/L
   140 mEq/L
   25.3 %
   14.7 K/uL
        [image002.jpg] UA +, UCx pending
                            [**2146-10-26**]  04:03 AM
                            [**2146-10-26**]  05:15 PM
                            [**2146-10-27**]  04:15 AM
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
   WBC
   9.3
   12.2
   12.9
   14.7
   Hct
   24.2
   22.4
   23.4
   25.0
   25.2
   25.3
   Plt
   247
   268
   316
   427
   Cr
   2.9
   2.7
   2.7
   2.5
   2.5
   2.2
   2.3
   TCO2
   30
   30
   Glucose
   126
   118
   116
   121
   108
   136
   113
   Other labs: PT / PTT / INR:15.4/32.9/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:52/59, Alk Phos / T Bili:217/0.7,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:309 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Microbiology: [**10-28**] C diff negative
   No other new culture data
   Assessment and Plan
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right aspiration Pneumonia.
   Patient on APRV, weaned to AC, then PS yesterday. CXR subsequently
   worsesend with reduced PEEP likely [**1-17**] increased atelectasis.   On Vanc
   (day 10 of 14) /Aztreonam (day 10 of 14)/ Clinda stopped on day 7 of 10
   -decrease PEEP to 5, maintain PS at 5, wean sedation, rpt gas in pm
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam for PNA, consider broadening if decompensates
   -diurese with lasix drip for goal negative 1L
   -MDIs PRN
   -daily chest x-rays
   # L leg contracture: Concerning for central process vs. gouty
   arthiritis of knee given history of gout.
   -f/u MRI read
   -speak with neurosurgery regarding read
   -would not treat with gout medications right now given renal function.
   If above are negative, consider prednisone for gouty arthritis
   .
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation.
   -increase gabapentin to 300 po tid
   -increase Fentanyl patch to 200mcg/72 hours
   .
   # Fevers/rising leukocytosis: Pt with improving resp status. Abd exam
   unchanged since last imaging of abd on [**10-26**]. Fungal markers negative.
   Fungal Cxs pending.  Legionalla sputum pending, urine negative. Will
   Rpt UA/UCX
   -repeat C diff
   -consider CT abdomen to look for intraabdominal source
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week (day 1 = [**10-23**]), then taper
   - change to Amio 200 tid starting [**10-30**]
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Currently
   unable to assess mental status given large amount of sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: continue to follow
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-29**] 06:51 AM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-30 06:38:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
 PAN CULTURE - At [**2146-10-29**] 09:02 AM
   urine. sputum,BC's one from A-line and one from Central line sent
 FEVER - 102.0
F - [**2146-10-30**] 04:00 AM
   MRI read:
   Previously noted fluid collection at the laminectomy site at the
   superior margin of the laminectomy has decreased with a small 2 cm
   fluid collection adjacent to the right facet joint between L4 and L5 is
   identified. This area demonstrates restricted diffusion. Given the
   history of recent surgery, this could be secondary to blood products,
   but associated infection cannot be excluded given the restricted
   diffusion.
   -neurosurg aware, no acute issues
   -changed amio dose to 200 tid
   -ID recommended CT abd: held off...just had one 5 days ago that was
   negative
   -increased lasix gtt to 12
   -rising white count
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2146-10-27**] 08:00 AM
   Aztreonam - [**2146-10-30**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-10-29**] 09:04 AM
   Heparin Sodium (Prophylaxis) - [**2146-10-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 96 (77 - 98) bpm
   BP: 108/41(60) {103/35(54) - 167/65(93)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,505 mL
                                                                    591 mL
   PO:
             TF:
                                                                  1,014 mL
                                                                    274 mL
   IVF:
                                                                    971 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                  1,080 mL
   Urine:
                                                                  1,675 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 615 (560 - 963) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   524 K/uL
   7.9 g/dL
   130 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.5 mEq/L
   49 mg/dL
   103 mEq/L
   139 mEq/L
   24.5 %
   17.0 K/uL
        [image002.jpg]
                            [**2146-10-27**]  04:15 AM
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
   WBC
   12.2
   12.9
   14.7
   17.0
   Hct
   22.4
   23.4
   25.0
   25.2
   25.3
   24.5
   Plt
   [**Telephone/Fax (3) 9973**]24
   Cr
   2.7
   2.5
   2.5
   2.2
   2.3
   2.2
   2.5
   TCO2
   30
   30
   Glucose
   116
   121
   108
   136
   113
   158
   130
   Other labs: PT / PTT / INR:15.7/35.1/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:52/59, Alk Phos / T Bili:217/0.7,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:309 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Microbiology: [**10-29**] C diff negative
   [**10-29**] Sputum culture pending
   [**10-29**] Blood cultures pending
   [**10-29**] Urine culture pending
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right aspiration Pneumonia.
   Patient on APRV, weaned to AC, then PS yesterday. CXR subsequently
   worsesend with reduced PEEP likely [**1-17**] increased atelectasis.   On Vanc
   (day 10 of 14) /Aztreonam (day 10 of 14)/ Clinda stopped on day 7 of 10
   -decrease PEEP to 5, maintain PS at 5, wean sedation, rpt gas in pm
   -keep patient on left side to get better blood flow to L lung
   -continue Vanc/Aztreonam for PNA, consider broadening if decompensates
   -diurese with lasix drip for goal negative 1L
   -MDIs PRN
   -daily chest x-rays
   # L leg contracture: Concerning for central process vs. gouty
   arthiritis of knee given history of gout.
   -f/u MRI read
   -speak with neurosurgery regarding read
   -would not treat with gout medications right now given renal function.
   If above are negative, consider prednisone for gouty arthritis
   .
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation.
   -increase gabapentin to 300 po tid
   -increase Fentanyl patch to 200mcg/72 hours
   .
   # Fevers/rising leukocytosis: Pt with improving resp status. Abd exam
   unchanged since last imaging of abd on [**10-26**]. Fungal markers negative.
   Fungal Cxs pending.  Legionalla sputum pending, urine negative. Will
   Rpt UA/UCX
   -repeat C diff
   -consider CT abdomen to look for intraabdominal source
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont Amio 400 tid x 1 week (day 1 = [**10-23**]), then taper
   - change to Amio 200 tid starting [**10-30**]
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Currently
   unable to assess mental status given large amount of sedation.
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: continue to follow
   .
   # FEN: IVFs / replete lytes prn / nutrition consult for tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-30 08:00:00 Physician Attending Progress Note
Chief Complaint: AMS, aspiration
   HPI:
   I saw and examined the patient, and was physically present with Dr.
   [**Last Name (STitle) 9976**] for key portions of the services provided. I agree with the
   medicine resident note and would  add / emphasize and add the following
   points:
   24 Hour Events:
 Fever to 102, PAN CULTURE - At [**2146-10-29**] 09:02 AM
   urine. sputum,BC's one from A-line and one from Central line sent
   - MRI per ID and NeuroSurg not concerning for new infectious process
   - Taper MRI
   - Versed gtt d/c
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Clindamycin - [**2146-10-27**] 08:00 AM
   Aztreonam - [**2146-10-30**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-10-29**] 09:04 AM
   Heparin Sodium (Prophylaxis) - [**2146-10-29**] 10:00 PM
   Other medications:
   Lidoderm patch, ASA, Lipitor. Fentanyl patch, Neurontin, Amiodarone
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-30**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 96 (77 - 98) bpm
   BP: 108/41(60) {103/35(54) - 167/65(93)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,505 mL
                                                                    634 mL
   PO:
             TF:
                                                                  1,014 mL
                                                                    274 mL
   IVF:
                                                                    971 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                  1,080 mL
   Urine:
                                                                  1,675 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    780 mL
                                                                   -446 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 615 (560 - 963) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: palpable), (Left radial
   pulse: palpable), (Right DP pulse: palpable), (Left DP pulse: palpable)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   bilaterally )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  No rash
   Ext: Bilat LE edema to mid shin, warm L knee, L ankle, no effusion
   Neurologic: Responds to: painful stimuli, moves extremities to stimuli;
   no spont movement
   Labs / Radiology
   7.9 g/dL
   524 K/uL
   130 mg/dL
   2.5 mg/dL
   28 mEq/L
   4.5 mEq/L
   49 mg/dL
   103 mEq/L
   139 mEq/L
   24.5 %
   17.0 K/uL
        [image002.jpg]
                            [**2146-10-27**]  04:15 AM
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
   WBC
   12.2
   12.9
   14.7
   17.0
   Hct
   22.4
   23.4
   25.0
   25.2
   25.3
   24.5
   Plt
   [**Telephone/Fax (3) 9973**]24
   Cr
   2.7
   2.5
   2.5
   2.2
   2.3
   2.2
   2.5
   TCO2
   30
   30
   Glucose
   116
   121
   108
   136
   113
   158
   130
   Other labs: PT / PTT / INR:15.7/35.1/1.4, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:52/59, Alk Phos / T Bili:217/0.7,
   Amylase / Lipase:/52, Differential-Neuts:88.0 %, Lymph:7.5 %, Mono:2.6
   %, Eos:1.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:309 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Sputum
 MRSA
   Urine legionella Negative
   C Diff negative
   Blood Cx NGTD
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate, now improving.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.  CXR improving.
   - Continue abx (vanc/aztreonam Day [**10-29**]) for aspiration/HAP
   - Bronchodilators
   - Weaned PS to [**4-19**] now, SBT today, mental status is main barrier
   currently to extubation.
   - Stop diuresis, follow I/Os
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. DVT unlikely given recent
   anticoagulation and now SQ heparin.  Effusions on CT do not appear to
   be empyemas.  Glucan/Galactomannan negative.  C .diff a posibility
   given increased diarrhea and clinda use.  Drug fever would be dx of
   exclusion.
   - Cont vanc / aztreonam, dosing vanco by level, due today
   - C-diff negative.
   - All cultures NGTD
   - CT-Chest/Abd per ID
   - Check diff on CBC
   - Appreciate ID input
 Meropenem for any decompensation
   # Altered Mental Status: Responds only to pain.
   - Head CT given poor MS
   # L Leg Contracture: Consider central process, vs inflammatory or
   infectious arthropathy
   - Await MRI read, d/w neurosurgery
   - Monitor L knee, hip, if tappable effusion tap given history of
   hematogenous infection, leaning towards gout,
   Rheum eval for ?tap ?gout
 if ID w/u is otherwise negative, would
   consider pred for gout flare.
   # Diffuse Body Pain: Still in marked discomfort despite fentanyl drip,
   neurontin.
   - Increase fentanyl patch, neurontin, wean fentanyl
   # Anemia: Hct stable s/p 1 unit PRBC yesterday.  No obvious source of
   bleeding.  Stool occult negative.
   - Hct goal >25.
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio started Sunday [**10-23**], tapered to 200mg tid [**10-30**].  Check EKG.
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   ICU Care
   Nutrition: On TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: PPI
   VAP: HOB at 30 degrees, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 35 min

2146-10-31 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.5
F - [**2146-10-30**] 08:00 AM
   CT Head done yesterday was negaive for stroke or bleed.
   CT Chest/ABD/Pelvis:
   IMPRESSION:
   1. Interval improvement in appearance of bilateral multifocal pulmonary
   infiltrates.
   2. Stable moderate bilateral pleural effusions.
   3. No source of infection identified within the abdomen or pelvis.
   Vanco level 11.7, was redosed to 750mg qdaily
   Lasix gtt stopped as he was not responding to 12mg/hr, 2L UOP by
   midnight without lasix
   Left leg continues to be contracted, Rheum consulted out of concern for
   Gout, but do not believe this represents Gout.  Prednisone started
   initially but then stopped.  Allopurinol also started and stopped as it
   is contraindicated to start during an acute flare.  Rheum recommended
   speaking to radiology regarding left hip.  Rads called, left hip on CT
   scan shows no abnormalities.
   Nurse overnight noted blanching macular/papular over body.  Vanco held
   this morning.  ID notified
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-30**] 02:56 PM
   Aztreonam - [**2146-10-31**] 12:11 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2146-10-30**] 06:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-31**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.9
C (98.4
   HR: 87 (66 - 97) bpm
   BP: 133/48(74) {109/40(62) - 158/54(87)} mmHg
   RR: 9 (7 - 15) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,985 mL
                                                                    542 mL
   PO:
             TF:
                                                                    886 mL
                                                                    317 mL
   IVF:
                                                                  1,179 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    310 mL
   Urine:
                                                                  1,895 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 993 (434 - 1,134) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 3.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   575 K/uL
   8.1 g/dL
   148 mg/dL
   2.6 mg/dL
   28 mEq/L
   4.8 mEq/L
   57 mg/dL
   100 mEq/L
   136 mEq/L
   25.5 %
   17.0 K/uL
        [image002.jpg]
                            [**2146-10-27**]  07:52 PM
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
                            [**2146-10-31**]  05:01 AM
   WBC
   12.9
   14.7
   17.0
   17.0
   Hct
   23.4
   25.0
   25.2
   25.3
   24.5
   25.5
   Plt
   [**Telephone/Fax (3) 9986**]75
   Cr
   2.5
   2.5
   2.2
   2.3
   2.2
   2.5
   2.6
   TCO2
   30
   30
   Glucose
   121
   108
   136
   113
   158
   130
   148
   Other labs: PT / PTT / INR:15.1/33.6/1.3, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:44/40, Alk Phos / T Bili:183/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:284 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right  Aspiration Pneumonia.
   Patient was on APRV, weaned to AC, then PS yesterday. CXR subsequently
   worsesend with reduced PEEP likely [**1-17**] increased atelectasis.   On Vanc
   (day 10 of 14) /Aztreonam (day 10 of 14)/ Clinda stopped on day 7 of 10
   -decrease PEEP to 5, maintain PS at 5, wean sedation, rpt gas in pm
   -continue Vanc/Aztreonam for PNA, consider broadening if decompensates
   -stop Lasix gtt as UOP decreased on 12mg/hr
   -MDIs PRN
   -daily chest x-rays
   - attempt to wean sedation today and SBT
   - ET tube at 8cm yesterday will f/u today and advance ET as needed
   # L leg contracture: Given tenderness of Left knee on exam, likely [**1-17**]
   gouty arthritis
   -patient given prednisone this morning but will hold off on more
   prednisone for now, will consult Rheum for definitive diagnosis
   .
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation.
   -cont gabapentin
   -cont Fentanyl patch
   .
   # Fevers/rising leukocytosis: Pt with improving resp status. Abd exam
   unchanged since last imaging of abd on [**10-26**]. Fungal markers negative.
   Fungal Cxs pending.  Legionalla sputum negattive, urine negative. UA
   done yesterday negative.  Cdiff yesterday negative
   -f/u Blood cx/urine cx
   - CT abdomen/chest today to look for intraabdominal source, pulmonary
   source
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont amio to 200mg TID for 1 week
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Currently
   unable to assess mental status given large amount of sedation.
   -- will obtain CT Head today for revaluation
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: ?Gout of left knee.
   -- consult Rheum
   .
   # FEN: replete lytes prn / cont tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-30**] 09:19 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-10-31 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 102.5
   - CT head unremarkable
   - CT Chest/Abd/Pelvis - Improving chest, no sources of infection in
   abd/pelvis
   - Rheum c/s for L knee pain and warmth - unlikely to be gout
   - Evolving rash with eosinophilia - switch from vanc to dapto, d/c
   aztreonam
   - Changed to MMV for apnea
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-30**] 02:56 PM
   Aztreonam - [**2146-10-31**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2146-10-30**] 06:34 PM
   Pantoprazole (Protonix) - [**2146-10-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-10-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-10-31**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 85 (66 - 94) bpm
   BP: 118/42(66) {109/40(62) - 158/54(87)} mmHg
   RR: 8 (7 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,985 mL
                                                                    883 mL
   PO:
             TF:
                                                                    886 mL
                                                                    453 mL
   IVF:
                                                                  1,179 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    530 mL
   Urine:
                                                                  1,895 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 128 (128 - 1,134) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 26
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.37/47/162/28/1
   Ve: 6.9 L/min
   PaO2 / FiO2: 405
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   575 K/uL
   148 mg/dL
   2.6 mg/dL
   28 mEq/L
   4.8 mEq/L
   57 mg/dL
   100 mEq/L
   136 mEq/L
   25.5 %
   17.0 K/uL
        [image002.jpg]
                            [**2146-10-28**]  12:01 AM
                            [**2146-10-28**]  05:41 AM
                            [**2146-10-28**]  06:01 AM
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
   WBC
   12.9
   14.7
   17.0
   17.0
   Hct
   25.0
   25.2
   25.3
   24.5
   25.5
   Plt
   [**Telephone/Fax (3) 9986**]75
   Cr
   2.5
   2.2
   2.3
   2.2
   2.5
   2.6
   TCO2
   30
   30
   28
   Glucose
   108
   136
   113
   158
   130
   148
   Other labs: PT / PTT / INR:15.1/33.6/1.3, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:44/40, Alk Phos / T Bili:183/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:284 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: Chest CT - improvement in R sided infiltrates/effusions.  CXR
   - Stable with tubes/lines in place.
   Microbiology: No new culture data.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, atrial thrombus, NSTEMI) p/w
   aspiration PNA with dense, large R-sided infiltrate, now improving.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.  CXR improving.
   - Continue abx (vanc/aztreonam Day [**10-29**]) for aspiration/HAP
   - Bronchodilators
   - Weaned PS to [**4-19**] now, SBT today, mental status is main barrier
   currently to extubation.
   - Stop diuresis, follow I/Os
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. DVT unlikely given recent
   anticoagulation and now SQ heparin.  Effusions on CT do not appear to
   be empyemas.  Glucan/Galactomannan negative.  C .diff a posibility
   given increased diarrhea and clinda use.  Drug fever would be dx of
   exclusion.
   - Cont vanc / aztreonam, dosing vanco by level, due today
   - C-diff negative.
   - All cultures NGTD
   - CT-Chest/Abd per ID
   - Check diff on CBC
   - Appreciate ID input
 Meropenem for any decompensation
   # Altered Mental Status: Responds only to pain.
   - Head CT given poor MS
   # L Leg Contracture: Consider central process, vs inflammatory or
   infectious arthropathy
   - Await MRI read, d/w neurosurgery
   - Monitor L knee, hip, if tappable effusion tap given history of
   hematogenous infection, leaning towards gout,
   Rheum eval for ?tap ?gout
 if ID w/u is otherwise negative, would
   consider pred for gout flare.
   # Diffuse Body Pain: Still in marked discomfort despite fentanyl drip,
   neurontin.
   - Increase fentanyl patch, neurontin, wean fentanyl
   # Anemia: Hct stable s/p 1 unit PRBC yesterday.  No obvious source of
   bleeding.  Stool occult negative.
   - Hct goal >25.
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio started Sunday [**10-23**], tapered to 200mg tid [**10-30**].  Check EKG.
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-10-31**] 06:54 AM 42 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2146-11-01 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.8
F - [**2146-10-31**] 08:00 PM
   - Max fentanyl drip had been 125/hr and over the wkend, pt was switched
   to 200mcg/hr patch + 25mcg/hr drip. Apneic in the am but still in pain.
   Pain c/s requested to determine if there was a way to wean but still
   provide adequate pain control with another [**Doctor Last Name **].
   - Per them, there is no good way to do this as all ohter agents would
   further cloud mental status and complicate extubation.
   - Fentanyl patch decreased 200mcg/hr to 100mcg/hr and drip increased to
   provide transition, but total dose = 200+25-->100+50.
   - hypertensive with systolics over 200: hydral started and upttitrated
   overnight to 30 q6h. HTN improved with hydral, but mainly responsive to
   fentanyl.
   - vomitted yesterday, tube feeds stopped and ng placed to suction
   overnight
   - rheum c/s concerned for septic joint and dvt
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-30**] 02:56 PM
   Aztreonam - [**2146-10-31**] 08:00 AM
   Daptomycin - [**2146-10-31**] 02:32 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-10-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-10-31**] 04:11 PM
   Hydralazine - [**2146-10-31**] 05:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-1**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 36.6
C (97.8
   HR: 84 (82 - 118) bpm
   BP: 169/49(84) {116/42(65) - 218/63(104)} mmHg
   RR: 11 (8 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,946 mL
                                                                    262 mL
   PO:
             TF:
                                                                    790 mL
   IVF:
                                                                    566 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,215 mL
   Urine:
                                                                  1,550 mL
                                                                    415 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                    396 mL
                                                                   -953 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 568 (128 - 1,030) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 87.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/41/222/28/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 555
   Physical Examination
   General Appearance: Well nourished, wincing to minimal stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, no rebound or guarding
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   626 K/uL
   8.3 g/dL
   125 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.4 mEq/L
   57 mg/dL
   103 mEq/L
   139 mEq/L
   26.3 %
   19.2 K/uL
        [image002.jpg]
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
   WBC
   14.7
   17.0
   17.0
   19.2
   Hct
   25.3
   24.5
   25.5
   26.3
   Plt
   427
   524
   575
   626
   Cr
   2.2
   2.3
   2.2
   2.5
   2.6
   2.3
   TCO2
   30
   28
   29
   30
   Glucose
   136
   113
   158
   130
   148
   125
   Other labs: PT / PTT / INR:15.1/33.6/1.3, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:44/40, Alk Phos / T Bili:183/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:284 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yo m with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right  Aspiration Pneumonia.
   Patient doing well on PSV, apnea has improved with decreased sedation .
    VANCO/AZTREONAM stopped on d12 ([**10-31**]), CLINDA stopped on d7 ([**10-29**])
   - PSV, continue to wean sedation to decrease apnea gently given pain
   considerations below
   - continue [**4-19**], if doing well this pm, then SBT, possible extubation
   -MDIs PRN
   - daily chest x-rays
   # L leg contracture: Unclear if true contracture vs joint process vs
   muscle spasm
   - f/u rheum recs
   - f/u nsgy recs
   - LENIS ordered per rheum recommendation
   - will discuss MRI of HIP/KNEE with ID
   .
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation. Pain consulted, per their initial assessment, there is no
   good way to control his pain during wean of sedation; addition of other
   agents could further cloud his mental status and thus further
   complicate mental status.
   -cont gabapentin AT CURRENT DOSE, would increase and possibly add other
   agents after extubation per pain c/s recs
   -cont Fentanyl patch at 100, wean drip
   .
   # Fevers/rising leukocytosis: Pt with improving resp status. Abd exam
   unchanged since last imaging of abd on [**10-26**]. Fungal markers negative.
   Fungal Cxs pending.  Legionalla sputum negattive, urine negative. UA
   done yesterday negative.  Cdiff yesterday negative
   -f/u Blood cx/urine cx
   - CT abdomen/chest without source
   - trend off curent Abx, given rash this could have been drug fever
   - f/u ID recs: seems that all possible sourses have been evaluated and
   should have been covered by HAP course
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont amio to 200mg TID for 1 week
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Currently
   unable to assess mental status given large amount of sedation.
   -- will obtain CT Head today for revaluation
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: ?Gout of left knee.
   --  Rheum dose not think so
   .
   # FEN: replete lytes prn / cont tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition: tube feeds on hold in anticipation of SBT this pm
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:  routine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-11-01 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Tm 103.8
   - Pain consult - weaning pain meds
   - Uptitrated anti-HTN
   - Emesis yesterday - TF held
   - Switched between MMV and PS
   - Rheum consult
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-30**] 02:56 PM
   Aztreonam - [**2146-10-31**] 08:00 AM
   Daptomycin - [**2146-10-31**] 02:32 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-10-31**] 04:11 PM
   Hydralazine - [**2146-10-31**] 05:58 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-1**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 36.6
C (97.8
   HR: 83 (77 - 118) bpm
   BP: 141/50(81) {114/41(63) - 218/63(104)} mmHg
   RR: 14 (8 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.6 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,946 mL
                                                                    358 mL
   PO:
             TF:
                                                                    790 mL
   IVF:
                                                                    566 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,405 mL
   Urine:
                                                                  1,550 mL
                                                                    605 mL
   NG:
   Stool:
   800 mL
   Drains:
   Balance:
                                                                    396 mL
                                                                 -1,046 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 643 (568 - 1,030) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   Compliance: 87.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/41/222/28/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 555
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   626 K/uL
   125 mg/dL
   2.3 mg/dL
   28 mEq/L
   4.4 mEq/L
   57 mg/dL
   103 mEq/L
   139 mEq/L
   26.3 %
   19.2 K/uL
        [image002.jpg]
                            [**2146-10-28**]  05:03 PM
                            [**2146-10-28**]  05:18 PM
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
   WBC
   14.7
   17.0
   17.0
   19.2
   Hct
   25.3
   24.5
   25.5
   26.3
   Plt
   427
   524
   575
   626
   Cr
   2.2
   2.3
   2.2
   2.5
   2.6
   2.3
   TCO2
   30
   28
   29
   30
   Glucose
   136
   113
   158
   130
   148
   125
   Other labs: PT / PTT / INR:15.1/33.6/1.3, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:44/40, Alk Phos / T Bili:183/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:284 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - Stable since yesterday.  B/L LENIS negative per report.
   Microbiology: No new culture data.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, NSTEMI) p/w aspiration PNA with
   dense, large R-sided infiltrate, now improving.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.  CXR improving.
   - Finished 14 days of vanc/aztreonam for aspiration/HAP
   - Bronchodilators
   - Wean to PS; mental status currently main barrier to extubation given
   pain/sedation
   - I/Os even
   - Day 12 of ET tube
 if not extubated tomorrow, then will d/w family
   possible trach Thurs/Fri
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. No DVT.  Effusions on CT do
   not appear to be empyemas.  Glucan/Galactomannan negative.  C. diff
   negative.   Rash and eosinophilia points to possible drug fever
   - Change abx to daptomycin for enterococcus endocarditis
   - Appreciate ID input
 Meropenem for any decompensation
   - [**Month (only) 8**] consider fungal coverage if does not defervesce given yeast in
   sputum/urine.
   # Altered Mental Status: Likely from oversedation due to pain regimen.
   Minimally more responsive today.  Head CT unremarkable.
   - Wean sedation
   - Pain consult to come by formally when patient extubated and
   interactive
   # L knee/great toe pain: Concerning for gout.  Low suspicion for septic
   joints. No fluid on knee U/S.
   - Discuss possible septic joint with ID, but will hold on MRI for now
   - Start steroids
   - Send uric acid level
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio started Sunday [**10-23**], tapered to 200mg tid [**10-30**].
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   # HTN: Likely [**1-17**] to weaning sedation
   - Continue to uptitrate hydralazine
   # Emesis: NPO with OG tube to suction to prevent further aspiration
   events.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2146-11-02 06:40:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 ULTRASOUND - At [**2146-11-1**] 09:20 AM
   leni's -Negative for DVT
   LFTs slightly more elevated
   Tolerated SBT well
   ID felt that septic joint was a real possibility. Recommended against
   prednisone for gout. Didn't think this was gout.
   Uric acid level high
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-30**] 02:56 PM
   Aztreonam - [**2146-10-31**] 08:00 AM
   Daptomycin - [**2146-10-31**] 02:32 PM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-2**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 85 (74 - 97) bpm
   BP: 134/45(74) {108/38(60) - 183/62(100)} mmHg
   RR: 13 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.6 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                    909 mL
                                                                    266 mL
   PO:
             TF:
   IVF:
                                                                    419 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    400 mL
   Urine:
                                                                  1,450 mL
                                                                    400 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 521 (521 - 662) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.44/44/103/29/4
   Ve: 7.8 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   690 K/uL
   7.6 g/dL
   103 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.3 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   24.1 %
   14.2 K/uL
        [image002.jpg]
                            [**2146-10-29**]  03:03 AM
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
   WBC
   14.7
   17.0
   17.0
   19.2
   14.2
   Hct
   25.3
   24.5
   25.5
   26.3
   24.1
   Plt
   427
   524
   575
   626
   690
   Cr
   2.3
   2.2
   2.5
   2.6
   2.3
   2.1
   TCO2
   28
   29
   30
   31
   Glucose
   113
   158
   130
   148
   125
   103
   Other labs: PT / PTT / INR:15.1/33.6/1.3, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:119/192, Alk Phos / T Bili:292/0.4,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:297 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yo m with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presents from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with  Right  Aspiration Pneumonia.
   Patient doing well on PSV, apnea has improved with decreased sedation
   .  VANCO/AZTREONAM stopped on d12 ([**10-31**]), CLINDA stopped on d7 ([**10-29**])
   - PSV, continue to wean sedation to decrease apnea gently given pain
   considerations below
   - continue [**4-19**], if doing well this pm, then SBT, possible extubation
   -MDIs PRN
   - daily chest x-rays
   # L leg contracture: Unclear if true contracture vs joint process vs
   muscle spasm
   - f/u rheum recs
   - f/u nsgy recs
   - LENIS ordered per rheum recommendation
   - will discuss MRI of HIP/KNEE with ID
   .
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation. Pain consulted, per their initial assessment, there is no
   good way to control his pain during wean of sedation; addition of other
   agents could further cloud his mental status and thus further
   complicate mental status.
   -cont gabapentin AT CURRENT DOSE, would increase and possibly add other
   agents after extubation per pain c/s recs
   -cont Fentanyl patch at 100, wean drip
   .
   # Fevers/rising leukocytosis: Pt with improving resp status. Abd exam
   unchanged since last imaging of abd on [**10-26**]. Fungal markers negative.
   Fungal Cxs pending.  Legionalla sputum negattive, urine negative. UA
   done yesterday negative.  Cdiff yesterday negative
   -f/u Blood cx/urine cx
   - CT abdomen/chest without source
   - trend off curent Abx, given rash this could have been drug fever
   - f/u ID recs: seems that all possible sourses have been evaluated and
   should have been covered by HAP course
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont amio to 200mg TID for 1 week
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Currently
   unable to assess mental status given large amount of sedation.
   -- will obtain CT Head today for revaluation
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source of blood loss, hapto wnl. Will follow [**Hospital1 **]
   Hct, goal 25
   -active T&S
   -check HCT daily
   -guaiac negative, hapto levels nml
   .
   # Gout: ?Gout of left knee.
   --  Rheum dose not think so
   .
   # FEN: replete lytes prn / cont tube feeds
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-11-02 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - BLENIS negative
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2146-10-30**] 02:56 PM
   Aztreonam - [**2146-10-31**] 08:00 AM
   Daptomycin - [**2146-10-31**] 02:32 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-2**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 80 (74 - 97) bpm
   BP: 123/39(64) {108/38(60) - 168/55(94)} mmHg
   RR: 13 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.7 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                    909 mL
                                                                    414 mL
   PO:
             TF:
   IVF:
                                                                    419 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    595 mL
   Urine:
                                                                  1,450 mL
                                                                    595 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                 -1,741 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 715 (521 - 715) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.42/48/155/29/6 on SBT
   Ve: 5.8 L/min
   PaO2 / FiO2: 388
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   690 K/uL
   103 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.3 mEq/L
   53 mg/dL
   105 mEq/L
   140 mEq/L
   24.1 %
   14.2 K/uL
        [image002.jpg]
                            [**2146-10-29**]  05:03 PM
                            [**2146-10-30**]  04:27 AM
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
   WBC
   17.0
   17.0
   19.2
   14.2
   Hct
   24.5
   25.5
   26.3
   24.1
   Plt
   524
   575
   626
   690
   Cr
   2.2
   2.5
   2.6
   2.3
   2.1
   TCO2
   28
   29
   30
   31
   32
   Glucose
   158
   130
   148
   125
   103
   Other labs: PT / PTT / INR:15.1/33.6/1.3, CK / CKMB /
   Troponin-T:434/7/0.70, ALT / AST:119/192, Alk Phos / T Bili:292/0.4,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:297 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Microbiology: Sputum [**10-30**] - GPC, yeast. Urine [**10-30**] - yeast.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, NSTEMI) p/w aspiration PNA with
   dense, large R-sided infiltrate, now improving.
   # Hypoxemic respiratory failure on vent: Likely [**1-17**] to HAP/aspiration
   PNA + pulmonary edema.  CXR improving.
   - Finished 14 days of vanc/aztreonam for aspiration/HAP
   - Bronchodilators
   - Wean to PS; mental status currently main barrier to extubation given
   pain/sedation
   - I/Os even
   - Day 12 of ET tube
 if not extubated tomorrow, then will d/w family
   possible trach Thurs/Fri
   # Persistent fevers: Known PNA
 but would expect him to be afebrile at
   this time from PNA.  Enterococcus aortic valve endocarditis and
   discitis stable. No new source identified. No DVT.  Effusions on CT do
   not appear to be empyemas.  Glucan/Galactomannan negative.  C. diff
   negative.   Rash and eosinophilia points to possible drug fever
   - Change abx to daptomycin for enterococcus endocarditis
   - Appreciate ID input
 Meropenem for any decompensation
   - [**Month (only) 8**] consider fungal coverage if does not defervesce given yeast in
   sputum/urine.
   # Altered Mental Status: Likely from oversedation due to pain regimen.
   Minimally more responsive today.  Head CT unremarkable.
   - Wean sedation
   - Pain consult to come by formally when patient extubated and
   interactive
   # L knee/great toe pain: Concerning for gout.  Low suspicion for septic
   joints. No fluid on knee U/S.
   - Discuss possible septic joint with ID, but will hold on MRI for now
   - Start steroids
   - Send uric acid level
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio started Sunday [**10-23**], tapered to 200mg tid [**10-30**].
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation plan deferred for closer to discharge.
   # HTN: Likely [**1-17**] to weaning sedation
   - Continue to uptitrate hydralazine
   # Emesis: NPO with OG tube to suction to prevent further aspiration
   events.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2146-11-03 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2146-11-2**] 11:12 AM
   Extubated successfully.
   No overnight events
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2146-10-31**] 08:00 AM
   Daptomycin - [**2146-10-31**] 02:32 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2146-11-2**] 08:57 PM
   Heparin Sodium (Prophylaxis) - [**2146-11-2**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-3**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 97 (80 - 100) bpm
   BP: 154/47(81) {123/39(64) - 169/59(98)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.7 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                    705 mL
                                                                    171 mL
   PO:
             TF:
   IVF:
                                                                    435 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    695 mL
   Urine:
                                                                  2,065 mL
                                                                    695 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,410 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 715 (715 - 715) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 20
   SpO2: 97%
   ABG: 7.43/44/98.[**Numeric Identifier 20**]/25/3
   Ve: 5.8 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   720 K/uL
   7.9 g/dL
   92 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   49 mg/dL
   109 mEq/L
   145 mEq/L
   24.6 %
   12.2 K/uL
        [image002.jpg]
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
                            [**2146-11-2**]  12:10 PM
                            [**2146-11-3**]  03:36 AM
   WBC
   17.0
   19.2
   14.2
   12.2
   Hct
   25.5
   26.3
   24.1
   24.6
   Plt
   575
   626
   690
   720
   Cr
   2.6
   2.3
   2.1
   2.0
   TCO2
   28
   29
   30
   31
   32
   30
   Glucose
   148
   125
   103
   92
   Other labs: PT / PTT / INR:15.7/55.1/1.4, CK / CKMB /
   Troponin-T:33/7/0.70, ALT / AST:52/41, Alk Phos / T Bili:182/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   This is a  76 yom with history of Asthma, Gout, BPH, CRI with baseline
   Cr 1.5-2 with recent hospitalization for epidural abscess and
   bacteremia [**1-17**] Pan-Sensitive Enterococcus who presented from rehab for
   fevers and lethargy subsequently intubated for PNA of entire right
   lung.
   # Respiratory failure: Patient with Right  Aspiration Pneumonia, now
   improved, off of antibiotics (s/p course vanco, aztreonam), still on
   Dapto for treatment of Enterococcus.
   - albuterol nebs PRN
   - cont fact tent, wean O2 as tolerated
   # L leg contracture: Improved now s/p extubation and no sedation.
   LENIS negative.  Left knee not tender to palpation today, less
   concerning for gout.  Will cont to monitor
   - f/u rheum recs
   - f/u nsgy recs
   # Hypertension: .On po hydral. Will transition to home meds: amlodipine
   10 and metoprolol. Wean hydral as these take effect.
   - start amlodipine 10
   - metoprolol 25 tid (home dose is 100 [**Hospital1 **])
   # Recurrent Aspiration: Failed S&S
   - Post-pyloric dobhoff
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation, however, now that sedation has been completely weaned
   -cont gabapentin
   -cont Fentanyl patch
   - defer pain c/s until MS improved
   # Fevers/ leukocytosis: Both Improved likely [**1-17**] drug fever/rash, now
   improved after stopping Vanco/Aztreonam
   - f/u Blood cx/urine cx
   - f/u ID recs
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont amio to 200mg TID for 1 week, day [**5-22**], then wean; unclear if he
   needs to be on amio long term
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin, restart home beta-blocker and
   uptitirate as tolerated
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Repeat CT
   scan done a few days ago also was negative, currently extubated and
   responding to commands and questions, seems improved
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source, HCT stable
   -check HCT daily
   .
   # Gout: no acute issues
   .
   # FEN: replete lytes prn / hold TF s/p extubation, may need NG tube
   tomorrow
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2146-10-20**] 09:11 PM
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Auto-diuresing, will dose lasix if not 1L neagtive at 8pm
   Picc line to be placed as needs dapto for VRE until [**11-14**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 6721**] [**Name8 (MD) 6722**], MD
   on:[**2146-11-3**] 20:49 ------

2146-11-03 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Extubated yesterday
   - Failed SLP eval
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Last dose of Antibiotics:
   Daptomycin - [**2146-10-31**] 02:32 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-11-3**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2146-11-3**] 08:14 AM
   Hydralazine - [**2146-11-3**] 09:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-3**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 100 (80 - 102) bpm
   BP: 163/54(89) {123/39(64) - 169/59(98)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.7 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                    705 mL
                                                                    208 mL
   PO:
             TF:
   IVF:
                                                                    435 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    945 mL
   Urine:
                                                                  2,065 mL
                                                                    945 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                 -1,410 mL
                                                                   -737 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 20
   SpO2: 97%
   ABG: 7.43/44/98.[**Numeric Identifier 20**]/25/3
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   720 K/uL
   92 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   49 mg/dL
   109 mEq/L
   145 mEq/L
   24.6 %
   12.2 K/uL
        [image002.jpg]
                            [**2146-10-31**]  05:01 AM
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
                            [**2146-11-2**]  12:10 PM
                            [**2146-11-3**]  03:36 AM
   WBC
   17.0
   19.2
   14.2
   12.2
   Hct
   25.5
   26.3
   24.1
   24.6
   Plt
   575
   626
   690
   720
   Cr
   2.6
   2.3
   2.1
   2.0
   TCO2
   28
   29
   30
   31
   32
   30
   Glucose
   148
   125
   103
   92
   Other labs: PT / PTT / INR:15.7/55.1/1.4, CK / CKMB /
   Troponin-T:33/7/0.70, ALT / AST:52/41, Alk Phos / T Bili:182/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:297 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, NSTEMI) p/w aspiration PNA with
   dense, large R-sided infiltrate, now improving.
   # Hypoxemic respiratory failure: Likely [**1-17**] to HAP/aspiration PNA +
   pulmonary edema.  Extubated [**11-2**].
   - Finished 14 days of vanc/aztreonam for aspiration/HAP
   - Bronchodilators
   - Diuresis
   # Persistent fevers: Now afebrile - presumed drug fever.
   - On daptomycin x 6 weeks from [**2146-9-30**] for enterococcus endocarditis
   - Appreciate ID input
 Meropenem for any decompensation.  Will discuss
   how to list drug allergies given numerous reactions to abx
   # Pain: Knee concerning for gout.  Low suspicion for septic joints. No
   fluid on knee U/S.
   - Observation for now as improved.
   - Consider pain consult in a few days when mental status fully cleared
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio started Sunday [**10-23**], tapered to 200mg tid [**10-30**]; 200mg daily
   [**11-3**].
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   Long term anticoagulation and amio plan deferred for closer to
   discharge.
   # HTN:
   - Continue to uptitrate hydralazine
   # Aspiration risk:  Failed swallow study with tachypnea, desaturation
   and evidence of applesauce in pharynx.
   - Dobhoff placement today
   - NPO
   - Will get double lumen picc for possible TPN depending on how he
   tolerates TF
   ICU Care
   Nutrition: Dobhoff as above.
   Glycemic Control:
   Lines:  Order PICC today (double lumen)
   Arterial Line - [**2146-10-20**] 09:11 PM
 d/c today
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor after Dobhoff if stable
   Total time spent: 25 minutes

2146-11-04 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-11-4**] 12:56 AM
   - ID signing off, they should be notififed re: placement prior to
   transfer vs discharge
   - Post pyloric dobhoff placed and TFs resstarted, PICC int he AM
   - Auto -diuresisng
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-11-3**] 08:14 AM
   Hydralazine - [**2146-11-3**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-11-3**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-4**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.4
   HR: 94 (85 - 102) bpm
   BP: 149/57(80) {140/50(73) - 157/73(92)} mmHg
   RR: 11 (8 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.7 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                    590 mL
                                                                    204 mL
   PO:
             TF:
             131 mL
   IVF:
                                                                    330 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    540 mL
   Urine:
                                                                  1,830 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -336 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   853 K/uL
   8.3 g/dL
   124 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   42 mg/dL
   113 mEq/L
   150 mEq/L
   27.0 %
   12.1 K/uL
        [image002.jpg]
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
                            [**2146-11-2**]  12:10 PM
                            [**2146-11-3**]  03:36 AM
                            [**2146-11-4**]  04:07 AM
   WBC
   19.2
   14.2
   12.2
   12.1
   Hct
   26.3
   24.1
   24.6
   27.0
   Plt
   [**Telephone/Fax (3) 10028**]53
   Cr
   2.3
   2.1
   2.0
   1.8
   TCO2
   28
   29
   30
   31
   32
   30
   Glucose
   125
   103
   92
   124
   Other labs: PT / PTT / INR:16.7/84.3/1.5, CK / CKMB /
   Troponin-T:33/7/0.70, ALT / AST:43/32, Alk Phos / T Bili:165/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:262 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   This is a  76 yom with history of Asthma, Gout, BPH, CRI with baseline
   Cr 1.5-2 with recent hospitalization for epidural abscess and
   bacteremia [**1-17**] Pan-Sensitive Enterococcus who presented from rehab for
   fevers and lethargy subsequently intubated for PNA of entire right
   lung.
   # Respiratory failure: Patient with Right  Aspiration Pneumonia, now
   improved, off of antibiotics (s/p course vanco, aztreonam), still on
   Dapto for treatment of Enterococcus.
   - albuterol nebs PRN
   - cont fact tent, wean O2 as tolerated
   # L leg contracture: Improved now s/p extubation and no sedation.
   LENIS negative.  Left knee not tender to palpation today, less
   concerning for gout.  Will cont to monitor
   - f/u rheum recs
   - f/u nsgy recs
   # Hypertension: .On po hydral. Will transition to home meds: amlodipine
   10 and metoprolol. Wean hydral as these take effect.
   - start amlodipine 10
   - metoprolol 25 tid (home dose is 100 [**Hospital1 **])
   # VRE endocardtis: daptomycin course finishes on [**11-14**]
   # Recurrent Aspiration: Failed S&S
   - Post-pyloric dobhoff
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation, however, now that sedation has been completely weaned
   -cont gabapentin
   -cont Fentanyl patch
   - defer pain c/s until MS improved
   # Fevers/ leukocytosis: Both Improved likely [**1-17**] drug fever/rash, now
   improved after stopping Vanco/Aztreonam
   - f/u Blood cx/urine cx
   - f/u ID recs
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont amio to 200mg TID for 1 week, day [**5-22**], then wean; unclear if he
   needs to be on amio long term
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin, restart home beta-blocker and
   uptitirate as tolerated
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Repeat CT
   scan done a few days ago also was negative, currently extubated and
   responding to commands and questions, seems improved
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source, HCT stable
   -check HCT daily
   .
   # Gout: no acute issues
   .
   # FEN: replete lytes prn / hold TF s/p extubation, may need NG tube
   tomorrow
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ
   # CODE:  Full Code
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-11-4**] 04:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-11-04 10:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - A. line pulled
   - ID signed off - want to be notified prior to d/c to arrange
   outpatient follow-up
   - Post-pyloric dobhoff placed, TF started
   - Autodiuresing
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2146-11-3**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-11-3**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-4**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.7
   HR: 90 (85 - 100) bpm
   BP: 157/63(86) {140/50(73) - 157/73(92)} mmHg
   RR: 10 (8 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.5 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                    590 mL
                                                                    513 mL
   PO:
             TF:
             251 mL
   IVF:
                                                                    330 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    830 mL
   Urine:
                                                                  1,830 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,240 mL
                                                                   -317 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, RUE edema more prominent than left
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   853 K/uL
   124 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   42 mg/dL
   113 mEq/L
   150 mEq/L
   27.0 %
   12.1 K/uL
        [image002.jpg]
                            [**2146-10-31**]  07:51 AM
                            [**2146-10-31**]  04:28 PM
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
                            [**2146-11-2**]  12:10 PM
                            [**2146-11-3**]  03:36 AM
                            [**2146-11-4**]  04:07 AM
   WBC
   19.2
   14.2
   12.2
   12.1
   Hct
   26.3
   24.1
   24.6
   27.0
   Plt
   [**Telephone/Fax (3) 10028**]53
   Cr
   2.3
   2.1
   2.0
   1.8
   TCO2
   28
   29
   30
   31
   32
   30
   Glucose
   125
   103
   92
   124
   Other labs: PT / PTT / INR:16.7/84.3/1.5, CK / CKMB /
   Troponin-T:33/7/0.70, ALT / AST:43/32, Alk Phos / T Bili:165/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:262 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: No new imaging.
   Microbiology: No new micro.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, NSTEMI) p/w aspiration PNA with
   dense, large R-sided infiltrate, now improving and extubated [**11-2**].
   # Hypoxemic respiratory failure: Likely [**1-17**] to HAP/aspiration PNA +
   pulmonary edema.  Extubated [**11-2**].
   - Finished 14 days of vanc/aztreonam for aspiration/HAP
   - Bronchodilators
   - Autodiuresis
   # Hypernatremia:
   - FWF
   # RUE swelling: Likely [**1-17**] positioning and diuresis
   - U/S to r/o DVT
   # Enterococcus endocarditis:
   - On daptomycin x 6 weeks from [**2146-9-30**] (end date [**2146-11-14**]) for
   enterococcus endocarditis ([**1-17**] drug fever and rashes from other
   antibiotics)
   # Pain:
   - Observation for now as improved.
   #Afib RVR: Initially on amio gtt, now transitioned to PO.
   - Amio started Sunday [**10-23**], tapered to 200mg tid [**10-30**]
 d/c amio as
   afib likely critical illness associated.  Will readdress long-term amio
   if reoccurs.
   - In sinus rhythm, so no anticoagulation at this time.  On aspirin.
   # HTN:
   - Continue to up titrate hydralazine, metoprolol, and amlodipine
   # Aspiration risk:  Failed swallow study with tachypnea, desaturation
   and evidence of applesauce in pharynx.
   - Dobhoff placed
   - Will get double lumen picc today for possible TPN depending on how he
   tolerates TF
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-11-4**] 04:00 AM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-10-21**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor vs rehab
 will discuss with case
   management
   Total time spent: 20 minutes

2146-11-05 05:50:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 ULTRASOUND - At [**2146-11-4**] 01:00 PM
   of right arm
 PICC LINE - START [**2146-11-4**] 02:53 PM
   RUE US: + for superficial cephalic vein clot
   PICC line placed
   Has a bed for rehab
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Daptomycin - [**2146-11-4**] 03:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-5**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 85 (80 - 96) bpm
   BP: 130/58(75) {128/57(75) - 175/88(100)} mmHg
   RR: 19 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.5 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,861 mL
                                                                    937 mL
   PO:
             TF:
                                                                    836 mL
                                                                    244 mL
   IVF:
                                                                    455 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    370 mL
   Urine:
                                                                  1,915 mL
                                                                    370 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -554 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   765 K/uL
   7.8 g/dL
   173 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   35 mg/dL
   115 mEq/L
   150 mEq/L
   24.7 %
   14.2 K/uL
        [image002.jpg]
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
                            [**2146-11-2**]  12:10 PM
                            [**2146-11-3**]  03:36 AM
                            [**2146-11-4**]  04:07 AM
                            [**2146-11-4**]  05:29 PM
                            [**2146-11-5**]  04:29 AM
   WBC
   19.2
   14.2
   12.2
   12.1
   14.2
   Hct
   26.3
   24.1
   24.6
   27.0
   24.7
   Plt
   [**Telephone/Fax (3) 10028**]53
   765
   Cr
   2.3
   2.1
   2.0
   1.8
   1.7
   1.6
   TCO2
   30
   31
   32
   30
   Glucose
   125
   103
   92
   124
   162
   173
   Other labs: PT / PTT / INR:16.7/84.3/1.5, CK / CKMB /
   Troponin-T:42/7/0.70, ALT / AST:43/32, Alk Phos / T Bili:165/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:262 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 CHRONIC PAIN
 ALTERATION IN NUTRITION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 .H/O SEPSIS WITHOUT ORGAN DYSFUNCTION
   76 yom with history of Asthma, Gout, BPH, CRI with baseline Cr 1.5-2
   with recent hospitalization for epidural abscess and bacteremia [**1-17**]
   Pan-Sensitive Enterococcus who presented from rehab for fevers and
   lethargy subsequently intubated for PNA of entire right lung.
   # Respiratory failure: Patient with Right  Aspiration Pneumonia, now
   improved, off of antibiotics (s/p course vanco, aztreonam), still on
   Dapto for treatment of Enterococcus.
   -  continue 2 week course of Dapto
final day [**11-14**]
   - albuterol nebs PRN
   - cont fact tent, wean O2 as tolerated
   # L leg contracture: resolved.
   # Hypertension: .On po hydral. Will transition to home meds: amlodipine
   10 and metoprolol. Wean hydral as these take effect.
   - start amlodipine 10
   - Increase metoprolol to 37.5 tid (home dose is 100 [**Hospital1 **])
   # VRE endocardtis: daptomycin course finishes on [**11-14**]
   # Recurrent Aspiration: Failed S&S
   - Post-pyloric dobhoff
   # Pain control: Patient with chronic pain, exacerbated by weaning
   sedation, however, now that sedation has been completely weaned
   -cont gabapentin
   -cont Fentanyl patch
   # Fevers/ leukocytosis: Both Improved likely [**1-17**] drug fever/rash, now
   improved after stopping Vanco/Aztreonam
   - f/u Blood cx/urine cx
   - f/u ID recs
   # Atrial Fibrillation with RVR:  patient had an episode of afib with
   RVR c/b hypotension which required CVL placement and Neo for blood
   pressure support.  AFIB/RVR recurred resolved with second IV load, now
   on po load.
   - monitor on tele
   - cont amio to 200mg TID for 1 week, day [**6-21**], d/c amiodarone today
   # Troponin leak:  Patient with troponin leak after episode of afib
   earlier in the week.  CK elevated slightly but MB flat.  Likely [**1-17**] to
   demand ischemia in the setting of hypotenstion, renal failure and afib
   with RVR.
   - rate control, restarted  ASA, statin, restart home beta-blocker and
   uptitirate as tolerated
   # AMS: Initially had AMS likely  [**1-17**] fevers and infection.  CT Head
   done in ED shows no signs of acute hemorrhage or infarction.  Repeat CT
   scan done a few days ago also was negative, currently extubated and
   responding to commands and questions, seems improved
   -- cont to monitor
   # Right Atrial Appendage Thrombus:  No thrombus seen on current ECHO
   -d/c
ed heparin gtt
   .
   # Anemia: no clear source, HCT stable
   -check HCT daily
   .
   # Gout: no acute issues
   .
   # FEN: replete lytes prn / hold TF s/p extubation, may need NG tube
   tomorrow
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: R IJ, PICC line placement today
   # CODE:  Full Code
   # DISPO: case management re: d/c to LTAC tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-11-4**] 11:08 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-10-21**] 03:07 PM
   PICC Line - [**2146-11-4**] 02:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-11-05 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PICC placed yest, RUE US yest with superficial cephalic v clot.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ampicillin
   Rash;
   Ceftriaxone
   Rash;
   Vancomycin
   Rash; Fever/[**Doctor First Name **]
   Aztreonam
   Rash; Fever/[**Doctor First Name **]
   Last dose of Antibiotics:
   Daptomycin - [**2146-11-4**] 03:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Lidocaine patch, ASA, Heparin SC, Lipitor, Neurontin, fentanyl patch,
   hydralazine, amlodipine, metoprolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-11-5**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 78 (78 - 90) bpm
   BP: 142/71(89) {128/54(72) - 175/88(100)} mmHg
   RR: 12 (11 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.5 kg (admission): 80.6 kg
   Height: 68 Inch
             Total In:
                                                                  1,861 mL
                                                                  1,443 mL
   PO:
             TF:
                                                                    836 mL
                                                                    468 mL
   IVF:
                                                                    455 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  2,415 mL
                                                                    630 mL
   Urine:
                                                                  1,915 mL
                                                                    630 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -554 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, 2+ UE edema bilaterally
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   765 K/uL
   173 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   35 mg/dL
   115 mEq/L
   150 mEq/L
   24.7 %
   14.2 K/uL
        [image002.jpg]
                            [**2146-11-1**]  04:40 AM
                            [**2146-11-1**]  05:05 AM
                            [**2146-11-1**]  02:39 PM
                            [**2146-11-2**]  05:10 AM
                            [**2146-11-2**]  10:41 AM
                            [**2146-11-2**]  12:10 PM
                            [**2146-11-3**]  03:36 AM
                            [**2146-11-4**]  04:07 AM
                            [**2146-11-4**]  05:29 PM
                            [**2146-11-5**]  04:29 AM
   WBC
   19.2
   14.2
   12.2
   12.1
   14.2
   Hct
   26.3
   24.1
   24.6
   27.0
   24.7
   Plt
   [**Telephone/Fax (3) 10028**]53
   765
   Cr
   2.3
   2.1
   2.0
   1.8
   1.7
   1.6
   TCO2
   30
   31
   32
   30
   Glucose
   125
   103
   92
   124
   162
   173
   Other labs: PT / PTT / INR:16.7/84.3/1.5, CK / CKMB /
   Troponin-T:42/7/0.70, ALT / AST:43/32, Alk Phos / T Bili:165/0.5,
   Amylase / Lipase:/52, Differential-Neuts:75.6 %, Lymph:10.2 %, Mono:7.4
   %, Eos:6.6 %, Fibrinogen:473 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1
   g/dL, LDH:262 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: RUE US- superficial cephalic v clot.
   Assessment and Plan
   76M (h/o asthma, gout and recent complicated hospital course including
   epidural abscess requring surgery, enterococcus bactermia, aortic
   endocarditis, septic emboli to brain, NSTEMI) p/w aspiration PNA now
   improving and extubated [**11-2**].
   HAP/aspiration PNA + pulmonary edema-  Extubated [**11-2**] and resolved
   - Finished 14 days of vanc/aztreonam for aspiration/HAP
   - Bronchodilators
   - Autodiuresis
   Enterococcus endocarditis:
   - On daptomycin x 6 weeks from [**2146-9-30**] (end date [**2146-11-14**]) for
   enterococcus endocarditis ([**1-17**] drug fever and rashes from other
   antibiotics)
   - repeat echo without abscess or vegetations
   L5-S1 discitis/ osteomyelitis: stable from [**9-28**] to [**10-19**] MRI
   -will touch base re: f/u and tx for this as separate from endocarditis
   Hypernatremia: stabilized and not improved with increased free H2O
   flushes yest
   - cont enteric free H20, will give 500cc D5W today as well and monitor
   RUE swelling: Likely [**1-17**] positioning and diuresis
   - U/S to r/o DVT
   Afib RVR: resolved
   - now off amio and in sinus
   - no anticoag at this time, will f/u with Cards as an outpt
   HTN:
   - Continue to up titrate hydralazine, metoprolol, and amlodipine
   Aspiration risk:  Failed swallow study with tachypnea, desaturation and
   evidence of applesauce in pharynx.
   - Dobhoff placed and will cont tube feeds
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2146-11-4**] 11:08 PM 42 mL/hour
   Comments: 250 q4 free H2O
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2146-10-21**] 03:07 PM
   PICC Line - [**2146-11-4**] 02:53 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 45 minutes